2145-04-26 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2145-4-25**] 06:12 PM
 PICC LINE - START [**2145-4-25**] 06:12 PM
 ARTERIAL LINE - START [**2145-4-25**] 10:29 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-25**] 10:00 PM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-26**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 93 (67 - 94) bpm
   BP: 91/49(61) {77/27(40) - 95/49(61)} mmHg
   RR: 17 (13 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    377 mL
                                                                    719 mL
   PO:
             TF:
                                                                    224 mL
                                                                    276 mL
   IVF:
                                                                     32 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    377 mL
                                                                    419 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.40/45/73.[**Numeric Identifier 252**]/26/1
   Physical Examination
   General: Drowsy but Alert, oriented to place only, no acute distress
   Skin: jaundice w/ multiple ecchymoses
   HEENT: Sclera icteric, MMD, oropharynx clear
   Neck: supple, JVP unable to assess [**12-21**] girth, no LAD, Right Subclavian
   HD line inplace
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: distended, soft, non-tender, bowel sounds present, mild
   diffuse tenderness, no rebound tenderness or guarding, no organomegaly
   able to be assess, + fluid wave
   Ext: Warm, well perfused, 2+ pulses, b/l pitting edema to waist
   Labs / Radiology
   39 K/uL
   8.4 g/dL
   165 mg/dL
   7.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   94 mg/dL
   100 mEq/L
   139 mEq/L
   23.8 %
   11.2 K/uL
        [image002.jpg]
   Ca: 9.1 Mg: 2.4 P: 5.7
   ALT: 60
   AP: 156
   Tbili: 43.2
   Alb: 3.3
   AST: 86
   LDH:
   Dbili:
   TProt:
   PT: 30.1
   INR: 3.1
                             [**2145-4-25**]  06:45 PM
                             [**2145-4-26**]  03:38 AM
                             [**2145-4-26**]  05:01 AM
   WBC
   11.2
   Hct
   23.8
   Plt
   39
   Cr
   7.0
   7.8
   TCO2
   29
   Glucose
   142
   165
   Other labs: PT / PTT / INR:30.1//3.1, ALT / AST:60/86, Alk Phos / T
   Bili:156/43.2, Albumin:3.3 g/dL, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL,
   PO4:5.7 mg/dL
[**2145-4-24**] 2:07 pm PERITONEAL FLUID
   GRAM STAIN (Final [**2145-4-24**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   FLUID CULTURE (Preliminary):    NO GROWTH.
   ANAEROBIC CULTURE (Preliminary):
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 IMPAIRED SKIN INTEGRITY
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH.
   #) Decompenstated Hep C Cirrhosis:  Decopenated HCV cirrhosis w/
   encepholpathy with rising MELD/INR likely persipitated by SBP c/b
   hepato-renal syndrome.  Is on active transplant list.
   - continue lactulose and rifaximin
   - continue midodrine and octreotide
   - trend LFTs, INR, albumin
   - sarna and urosiol for pruritis
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension.
   - start CVVH given hypotension w/ HD
   - cont midodrine, octreotide, selevamer
   - f/u renal recs
   #) Thrombocytopenia/Anemia - [**12-21**] congestive sequestration, underlying
   liver disease. Has been stable of recent.
   - monitor counts daily
   - transfuse for HCT <21, Plts<20
   #)SBP: Resolved, completed antibiotic course. Paracentesis on [**2145-4-24**]
   without evidence of recurrence. S/P 5L tap on [**2145-4-24**]
   - continue to monitor for infection
   - f/u recent paracentesis cultures
   - continue on cipro prophylaxis
   #) Hypotension - likely [**12-21**] fluid shifts at HD as otherwise has been
   stable. No pressor requirment.
   - CVVH for now
   #) FEN/GI - TF vis Dobhoff, PPI
   #) PPx - Pneumoboots, bowel regimen PRN
   #) Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] (nurse) sister [**Telephone/Fax (3) 6912**], second HCP is [**Name (NI) 1760**] [**Name (NI) 6399**] - sister - (h)
   [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave msg on cell)
   #) Code - Full
   #) Dispo - ICU pending liver/renal tx or ability to tolerate HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-26 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2145-4-25**] 06:12 PM
 PICC LINE - START [**2145-4-25**] 06:12 PM
 ARTERIAL LINE - START [**2145-4-25**] 10:29 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-25**] 10:00 PM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-26**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 93 (67 - 94) bpm
   BP: 91/49(61) {77/27(40) - 95/49(61)} mmHg
   RR: 17 (13 - 20) insp/min
   SpO2: 96% NC 2L
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    377 mL
                                                                    719 mL
   PO:
             TF:
                                                                    224 mL
                                                                    276 mL
   IVF:
                                                                     32 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
                                                                    Anuric
                                                                    Anuric
   NG:
   Stool:
   Drains:
   Balance:
                                                                    377 mL
                                                                    419 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.40/45/73.[**Numeric Identifier 252**]/26/1
   Physical Examination
   General: Drowsy but alert, no acute distress
   Skin: Jaundice w/ multiple ecchymoses
   HEENT: Sclera icteric, dry mucous membranes
   Neck: Supple, right Subclavian HD line in place
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonci
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Distended, dull to percussion, soft, non-tender, bowel sounds
   present
   Ext: Warm, well perfused, 2+ pulses, b/l pitting edema to waist
   (stable)
   Labs / Radiology
   39 K/uL
   8.4 g/dL
   165 mg/dL
   7.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   94 mg/dL
   100 mEq/L
   139 mEq/L
   23.8 %
   11.2 K/uL
        [image002.jpg]
   Ca: 9.1 Mg: 2.4 P: 5.7
   ALT: 60
   AP: 156
   Tbili: 43.2
   Alb: 3.3
   AST: 86
   LDH:
   Dbili:
   TProt:
   PT: 30.1
   INR: 3.1
                             [**2145-4-25**]  06:45 PM
                             [**2145-4-26**]  03:38 AM
                             [**2145-4-26**]  05:01 AM
   WBC
   11.2
   Hct
   23.8
   Plt
   39
   Cr
   7.0
   7.8
   TCO2
   29
   Glucose
   142
   165
   Other labs: PT / PTT / INR:30.1//3.1, ALT / AST:60/86, Alk Phos / T
   Bili:156/43.2, Albumin:3.3 g/dL, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL,
   PO4:5.7 mg/dL
[**2145-4-24**] 2:07 pm PERITONEAL FLUID
   GRAM STAIN (Final [**2145-4-24**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   FLUID CULTURE (Preliminary):    NO GROWTH.
   ANAEROBIC CULTURE (Preliminary):
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 IMPAIRED SKIN INTEGRITY
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH.
   #) Decompenstated Hep C Cirrhosis:  Decompenated HCV cirrhosis w/
   encepholpathy with rising MELD/INR likely precipitated by SBP c/b
   hepatorenal syndrome
   - Confirm with hepatology service that patient is active on transplant
   list
   - Continue lactulose and rifaximin
   - Continue midodrine and octreotide
   - Trend LFTs, INR, albumin
   - Sarna and urosiol for pruritis
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - CVVH still pending this morning; will watch hemodynamics closely
   - Cont midodrine, octreotide, selevamer
   - f/u renal recs
   #) Leukocytosis:  New. Patient likely unable to mount temperature with
   CVVH. No clear source of infection. Just completed course for SBP, and
   now on prophylaxis. No cough on findings on auscultation to suggest
   pneumonia.
   - Panculture
   - Trend WBC count
   - Continue ciprofloxacin for SBP prophylaxis, as below
   #) Thrombocytopenia/Anemia - [**12-21**] congestive sequestration, underlying
   liver disease. Has been stable of recent.
   - monitor counts daily
   - transfuse for HCT <21, Plts<20
   #) SBP: Resolved, completed antibiotic course. Paracentesis on [**2145-4-24**]
   without evidence of recurrence. S/P 5L tap on [**2145-4-24**]
   - continue to monitor for infection
   - f/u recent paracentesis cultures
   - continue on cipro prophylaxis
   #) Hypotension - likely [**12-21**] fluid shifts at HD as otherwise has been
   stable. No pressor requirment.
   - CVVH for now
   ICU Care
   #) FEN/GI - TF vis Dobhoff, PPI
   #) PPx - Pneumoboots, bowel regimen PRN
   #) Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] (nurse) sister [**Telephone/Fax (3) 6912**], second HCP is [**Name (NI) 1760**] [**Name (NI) 6399**] - sister - (h)
   [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave msg on cell)
   #) Code - Full
   #) Dispo - ICU pending liver/renal tx or ability to tolerate HD

2145-04-26 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2145-4-25**] 06:12 PM
 PICC LINE - START [**2145-4-25**] 06:12 PM
 ARTERIAL LINE - START [**2145-4-25**] 10:29 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-25**] 10:00 PM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-26**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 93 (67 - 94) bpm
   BP: 91/49(61) {77/27(40) - 95/49(61)} mmHg
   RR: 17 (13 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    377 mL
                                                                    719 mL
   PO:
             TF:
                                                                    224 mL
                                                                    276 mL
   IVF:
                                                                     32 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    377 mL
                                                                    419 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.40/45/73.[**Numeric Identifier 252**]/26/1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   39 K/uL
   8.4 g/dL
   165 mg/dL
   7.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   94 mg/dL
   100 mEq/L
   139 mEq/L
   23.8 %
   11.2 K/uL
        [image002.jpg]
                             [**2145-4-25**]  06:45 PM
                             [**2145-4-26**]  03:38 AM
                             [**2145-4-26**]  05:01 AM
   WBC
   11.2
   Hct
   23.8
   Plt
   39
   Cr
   7.0
   7.8
   TCO2
   29
   Glucose
   142
   165
   Other labs: PT / PTT / INR:30.1//3.1, ALT / AST:60/86, Alk Phos / T
   Bili:156/43.2, Albumin:3.3 g/dL, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL,
   PO4:5.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 IMPAIRED SKIN INTEGRITY
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH.
   #) Decompenstated Hep C Cirrhosis:  Decopenated HCV cirrhosis w/
   encepholpathy with rising MELD/INR likely persipitated by SBP c/b
   hepato-renal syndrome.  Is on active transplant list.
   - continue lactulose and rifaximin
   - continue midodrine and octreotide
   - trend LFTs, INR, albumin
   - sarna and urosiol for pruritis
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension.
   - start CVVH given hypotension w/ HD
   - cont midodrine, octreotide, selevamer
   - f/u renal recs
   #) Thrombocytopenia/Anemia - [**12-21**] congestive sequestration, underlying
   liver disease. Has been stable of recent.
   - monitor counts daily
   - transfuse for HCT <21, Plts<20
   #)SBP: Resolved, completed antibiotic course. Paracentesis on [**2145-4-24**]
   without evidence of recurrence. S/P 5L tap on [**2145-4-24**]
   - continue to monitor for infection
   - f/u recent paracentesis cultures
   - continue on cipro prophylaxis
   #) Hypotension - likely [**12-21**] fluid shifts at HD as otherwise has been
   stable. No pressor requirment.
   - CVVH for now
   #) FEN/GI - TF vis Dobhoff, PPI
   #) PPx - Pneumoboots, bowel regimen PRN
   #) Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] (nurse) sister [**Telephone/Fax (3) 6912**], second HCP is [**Name (NI) 1760**] [**Name (NI) 6399**] - sister - (h)
   [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave msg on cell)
   #) Code - Full
   #) Dispo - ICU pending liver/renal tx or ability to tolerate HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-27 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Given rising leukocytosis, pancultured; no clear infiltrate on CXR
   - Calcium acetate cannot be crushed. Sevelamer can be crushed - he's
   already on it.
   - Sliding scale tightened
   - Started CVVH in afternoon; per renal, aiming for negative on [**2145-3-27**]
   - Per hepatology note, patient is active on transplant list
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-26**] 10:02 PM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-4-26**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-27**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.7
   HR: 95 (71 - 97) bpm
   BP: 78/43(55) {73/40(51) - 102/53(66)} mmHg
   RR: 18 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,529 mL
                                                                  2,043 mL
   PO:
             TF:
                                                                  1,091 mL
                                                                    295 mL
   IVF:
                                                                  2,748 mL
                                                                  1,598 mL
   Blood products:
   Total out:
                                                                  3,064 mL
                                                                  1,523 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,465 mL
                                                                    520 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.35/48/99.[**Numeric Identifier 299**]/24/0
   Physical Examination
   General: Drowsy but alert, no acute distress
   Skin: Jaundice w/ multiple ecchymoses
   HEENT: Sclera icteric, dry mucous membranes
   Neck: Supple, right Subclavian HD line in place
   Lungs: Clear to auscultation anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Distended, dull to percussion, soft, non-tender, bowel sounds
   present
   Ext: Warm, well perfused,  b/l pitting edema to waist (stable)
   Labs / Radiology
   46 K/uL
   8.4 g/dL
   172 mg/dL
   8.0 mg/dL
   24 mEq/L
   3.6 mEq/L
   91 mg/dL
   98 mEq/L
   137 mEq/L
   25.0 %
   12.6 K/uL
        [image002.jpg]
                             [**2145-4-25**]  06:45 PM
                             [**2145-4-26**]  03:38 AM
                             [**2145-4-26**]  05:01 AM
                             [**2145-4-26**]  12:00 PM
                             [**2145-4-26**]  10:23 PM
                             [**2145-4-26**]  10:40 PM
                             [**2145-4-27**]  03:16 AM
                             [**2145-4-27**]  04:09 AM
   WBC
   11.2
   12.6
   Hct
   23.8
   25.0
   Plt
   39
   46
   Cr
   7.0
   7.8
   8.5
   8.0
   TCO2
   29
   26
   28
   Glucose
   142
   165
   167
   223
   172
   Other labs: PT / PTT / INR:30.1/77.8/3.1, ALT / AST:63/93, Alk Phos / T
   Bili:171/44.1, Albumin:3.3 g/dL, Ca++:8.5 mg/dL, Mg++:2.5 mg/dL,
   PO4:5.5 mg/dL
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH.
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. No e/o recurrence
   on [**2145-4-24**] paracentesis (s/p 5L removal) and completed abx course
   although increased leukocytosis concerning for recurrence.
   - Confirm with hepatology service that patient is active on transplant
   list
   - Continue lactulose and rifaximin
   - Continue midodrine; d/c octreotide
   - Trend LFTs, INR, albumin
   - Sarna and urosiol for pruritis
   - Cont cipro for SBP ppx and trend fever curve and WBC; consider repeat
   paracentesis
   #) Leukocytosis:  Mild increase. Patient likely unable to mount
   temperature with CVVH. No clear source of infection but SBP would be
   likeliest source. Just completed course for SBP, and now on
   prophylaxis. No cough on findings on auscultation to suggest pneumonia.
   - Panculture if spikes
   - Trend WBC count and fever curve; add diff
   - Continue ciprofloxacin for SBP prophylaxis as above; consider repeat
   paracentesis
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - Cont CVVH; will watch hemodynamics closely
   - goal negative fluid balance as long as not requiring levophed > 0.2
   - Cont midodrine, selevamer; d/c octreotide
   - F/u renal recs
   #) Hypotension - likely [**12-21**] fluid shifts at HD as otherwise has been
   stable on midodrine
   - Cont CVVH and midodrine for now
   #) Thrombocytopenia/Anemia - [**12-21**] congestive sequestration, underlying
   liver disease. Has been stable of recent.
   - Monitor counts daily
   - Transfuse for HCT <21, Plts<20
   ICU Care
   Nutrition: TF via dobhoff
   Nutren Renal (Full) - [**2145-4-27**] 04:03 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: Will speak to Liver re: restarting hep SQ; pneumoboots limited by
   LE skin integrity and UE lines
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] (nurse) sister
   [**Telephone/Fax (3) 6965**], second HCP is [**Name (NI) 1760**] [**Name (NI) 6399**] - sister -
   (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave msg on cell)
   Code status: Full code
   Disposition: ICU pending liver/renal tx or ability to tolerate HD

2145-04-27 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2145-4-26**] 12:00 PM
   from PICC
 BLOOD CULTURED - At [**2145-4-26**] 06:17 PM
   from a-line
   - CT abd/pelvis:  Small perihepatic free fluid, new from prior study.
   No evidence of obstruction, pneumatosis, or free air. Small bilateral
   pleural effusions with associated atelectasis/consolidation of the
   adjacent lungs.
   - Endocrine says its okay to get IV contrast load with hyperthyroidism
   off of methimazole.
   - Intermittent 500ccLR IV boluses for MAP~55 with CVP<12.
   - GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS [**12-21**]
     GRAM NEGATIVE ROD(S) [**11-20**]
   (appropriate therapy with Flagyl, Zosyn, vancomycin)
   Vanc trough ordered for Tuesday evening
   - TTE:  Hyperdynamic LV systolic dysfunction with an abnormal systolic
   flow contour without LVOT gradient. Mild mitral regurgitation. Mild
   pulmonary artery systolic hypertension
   - Persistent tachycardia (afib), despite coming off of Levophed and
   fluid boluses - sBP>140s - amiodarone bolus and gtt started
   - LIJ CVL placed, position confirmed, RIJ removed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-26**] 10:02 PM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-4-26**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-27**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.7
   HR: 95 (71 - 97) bpm
   BP: 78/43(55) {73/40(51) - 102/53(66)} mmHg
   RR: 18 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,529 mL
                                                                  2,043 mL
   PO:
             TF:
                                                                  1,091 mL
                                                                    295 mL
   IVF:
                                                                  2,748 mL
                                                                  1,598 mL
   Blood products:
   Total out:
                                                                  3,064 mL
                                                                  1,523 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,465 mL
                                                                    520 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.35/48/99.[**Numeric Identifier 299**]/24/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   46 K/uL
   8.4 g/dL
   172 mg/dL
   8.0 mg/dL
   24 mEq/L
   3.6 mEq/L
   91 mg/dL
   98 mEq/L
   137 mEq/L
   25.0 %
   12.6 K/uL
        [image002.jpg]
                             [**2145-4-25**]  06:45 PM
                             [**2145-4-26**]  03:38 AM
                             [**2145-4-26**]  05:01 AM
                             [**2145-4-26**]  12:00 PM
                             [**2145-4-26**]  10:23 PM
                             [**2145-4-26**]  10:40 PM
                             [**2145-4-27**]  03:16 AM
                             [**2145-4-27**]  04:09 AM
   WBC
   11.2
   12.6
   Hct
   23.8
   25.0
   Plt
   39
   46
   Cr
   7.0
   7.8
   8.5
   8.0
   TCO2
   29
   26
   28
   Glucose
   142
   165
   167
   223
   172
   Other labs: PT / PTT / INR:30.1/77.8/3.1, ALT / AST:63/93, Alk Phos / T
   Bili:171/44.1, Albumin:3.3 g/dL, Ca++:8.5 mg/dL, Mg++:2.5 mg/dL,
   PO4:5.5 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-27**] 04:03 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-04-27 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2145-4-26**] 12:00 PM
   from PICC
 BLOOD CULTURED - At [**2145-4-26**] 06:17 PM
   from a-line
   - CT abd/pelvis:  Small perihepatic free fluid, new from prior study.
   No evidence of obstruction, pneumatosis, or free air. Small bilateral
   pleural effusions with associated atelectasis/consolidation of the
   adjacent lungs.
   - Endocrine says its okay to get IV contrast load with hyperthyroidism
   off of methimazole.
   - Intermittent 500ccLR IV boluses for MAP~55 with CVP<12.
   - GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS [**12-21**]
     GRAM NEGATIVE ROD(S) [**11-20**]
   (appropriate therapy with Flagyl, Zosyn, vancomycin)
   Vanc trough ordered for Tuesday evening
   - TTE:  Hyperdynamic LV systolic dysfunction with an abnormal systolic
   flow contour without LVOT gradient. Mild mitral regurgitation. Mild
   pulmonary artery systolic hypertension
   - Persistent tachycardia (afib), despite coming off of Levophed and
   fluid boluses - sBP>140s - amiodarone bolus and gtt started
   - LIJ CVL placed, position confirmed, RIJ removed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-26**] 10:02 PM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-4-26**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-27**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.7
   HR: 95 (71 - 97) bpm
   BP: 78/43(55) {73/40(51) - 102/53(66)} mmHg
   RR: 18 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,529 mL
                                                                  2,043 mL
   PO:
             TF:
                                                                  1,091 mL
                                                                    295 mL
   IVF:
                                                                  2,748 mL
                                                                  1,598 mL
   Blood products:
   Total out:
                                                                  3,064 mL
                                                                  1,523 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,465 mL
                                                                    520 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.35/48/99.[**Numeric Identifier 299**]/24/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   46 K/uL
   8.4 g/dL
   172 mg/dL
   8.0 mg/dL
   24 mEq/L
   3.6 mEq/L
   91 mg/dL
   98 mEq/L
   137 mEq/L
   25.0 %
   12.6 K/uL
        [image002.jpg]
                             [**2145-4-25**]  06:45 PM
                             [**2145-4-26**]  03:38 AM
                             [**2145-4-26**]  05:01 AM
                             [**2145-4-26**]  12:00 PM
                             [**2145-4-26**]  10:23 PM
                             [**2145-4-26**]  10:40 PM
                             [**2145-4-27**]  03:16 AM
                             [**2145-4-27**]  04:09 AM
   WBC
   11.2
   12.6
   Hct
   23.8
   25.0
   Plt
   39
   46
   Cr
   7.0
   7.8
   8.5
   8.0
   TCO2
   29
   26
   28
   Glucose
   142
   165
   167
   223
   172
   Other labs: PT / PTT / INR:30.1/77.8/3.1, ALT / AST:63/93, Alk Phos / T
   Bili:171/44.1, Albumin:3.3 g/dL, Ca++:8.5 mg/dL, Mg++:2.5 mg/dL,
   PO4:5.5 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 IMPAIRED SKIN INTEGRITY
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH.
   #) Decompenstated Hep C Cirrhosis:  Decompenated HCV cirrhosis w/
   encepholpathy with rising MELD/INR likely precipitated by SBP c/b
   hepatorenal syndrome
   - Confirm with hepatology service that patient is active on transplant
   list
   - Continue lactulose and rifaximin
   - Continue midodrine and octreotide
   - Trend LFTs, INR, albumin
   - Sarna and urosiol for pruritis
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - CVVH still pending this morning; will watch hemodynamics closely
   - Cont midodrine, octreotide, selevamer
   - f/u renal recs
   #) Leukocytosis:  New. Patient likely unable to mount temperature with
   CVVH. No clear source of infection. Just completed course for SBP, and
   now on prophylaxis. No cough on findings on auscultation to suggest
   pneumonia.
   - Panculture
   - Trend WBC count
   - Continue ciprofloxacin for SBP prophylaxis, as below
   #) Thrombocytopenia/Anemia - [**12-21**] congestive sequestration, underlying
   liver disease. Has been stable of recent.
   - monitor counts daily
   - transfuse for HCT <21, Plts<20
   #) SBP: Resolved, completed antibiotic course. Paracentesis on [**2145-4-24**]
   without evidence of recurrence. S/P 5L tap on [**2145-4-24**]
   - continue to monitor for infection
   - f/u recent paracentesis cultures
   - continue on cipro prophylaxis
   #) Hypotension - likely [**12-21**] fluid shifts at HD as otherwise has been
   stable. No pressor requirment.
   - CVVH for now
   ICU Care
   #) FEN/GI - TF vis Dobhoff, PPI
   #) PPx - Pneumoboots, bowel regimen PRN
   #) Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] (nurse) sister [**Telephone/Fax (3) 6912**], second HCP is [**Name (NI) 1760**] [**Name (NI) 6399**] - sister - (h)
   [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave msg on cell)
   #) Code - Full
   #) Dispo - ICU pending liver/renal tx or ability to tolerate HD
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-27**] 04:03 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-04-27 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Given rising leukocytosis, pancultured; no clear infiltrate on CXR
   - Calcium acetate cannot be crushed. Sevelamer can be crushed - he's
   already on it.
   - Sliding scale tightened
   - Started CVVH in afternoon; per renal, aiming for negative on [**2145-3-27**]
   - Per hepatology note, patient is active on transplant list
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-26**] 10:02 PM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-4-26**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-27**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.7
   HR: 95 (71 - 97) bpm
   BP: 78/43(55) {73/40(51) - 102/53(66)} mmHg
   RR: 18 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,529 mL
                                                                  2,043 mL
   PO:
             TF:
                                                                  1,091 mL
                                                                    295 mL
   IVF:
                                                                  2,748 mL
                                                                  1,598 mL
   Blood products:
   Total out:
                                                                  3,064 mL
                                                                  1,523 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,465 mL
                                                                    520 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.35/48/99.[**Numeric Identifier 299**]/24/0
   Physical Examination
   General: Drowsy but alert, no acute distress
   Skin: Jaundice w/ multiple ecchymoses
   HEENT: Sclera icteric, dry mucous membranes
   Neck: Supple, right Subclavian HD line in place
   Lungs: Clear to auscultation anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Distended, dull to percussion, soft, non-tender, bowel sounds
   present
   Ext: Warm, well perfused,  b/l pitting edema to waist (stable)
   Labs / Radiology
   46 K/uL
   8.4 g/dL
   172 mg/dL
   8.0 mg/dL
   24 mEq/L
   3.6 mEq/L
   91 mg/dL
   98 mEq/L
   137 mEq/L
   25.0 %
   12.6 K/uL
        [image002.jpg]
                             [**2145-4-25**]  06:45 PM
                             [**2145-4-26**]  03:38 AM
                             [**2145-4-26**]  05:01 AM
                             [**2145-4-26**]  12:00 PM
                             [**2145-4-26**]  10:23 PM
                             [**2145-4-26**]  10:40 PM
                             [**2145-4-27**]  03:16 AM
                             [**2145-4-27**]  04:09 AM
   WBC
   11.2
   12.6
   Hct
   23.8
   25.0
   Plt
   39
   46
   Cr
   7.0
   7.8
   8.5
   8.0
   TCO2
   29
   26
   28
   Glucose
   142
   165
   167
   223
   172
   Other labs: PT / PTT / INR:30.1/77.8/3.1, ALT / AST:63/93, Alk Phos / T
   Bili:171/44.1, Albumin:3.3 g/dL, Ca++:8.5 mg/dL, Mg++:2.5 mg/dL,
   PO4:5.5 mg/dL
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH.
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. No e/o recurrence
   on [**2145-4-24**] paracentesis (s/p 5L removal) and completed abx course
   although increased leukocytosis concerning for recurrence.
   - Continue lactulose and rifaximin
   - Continue midodrine; d/c octreotide
   - Trend LFTs, INR, albumin
   - Sarna and urosiol for pruritis
   - Cont cipro for SBP ppx and trend fever curve and WBC; consider repeat
   paracentesis if decompensates or if WBC continues to rise.
   #) Leukocytosis:  Mild increase. Patient likely unable to mount
   temperature with CVVH. No clear source of infection but SBP would be
   likeliest source. Just completed course for SBP, and now on
   prophylaxis. No cough or findings on auscultation to suggest pneumonia.
   - Panculture if spikes
   - Trend WBC count and fever curve; add diff
   - Continue ciprofloxacin for SBP prophylaxis as above; consider repeat
   paracentesis
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - Cont CVVH; will watch hemodynamics closely
   - goal negative fluid balance as long as not requiring levophed > 0.2
   - Cont midodrine, selevamer; d/c octreotide
   - F/u renal recs
   #) Hypotension - likely [**12-21**] fluid shifts at HD as otherwise has been
   stable on midodrine
   - Cont CVVH and midodrine for now
   #) Thrombocytopenia/Anemia - [**12-21**] congestive sequestration, underlying
   liver disease. Has been stable of recent.
   - Monitor counts daily
   - Transfuse for HCT <21, Plts<20
   ICU Care
   Nutrition: TF via dobhoff
   Nutren Renal (Full) - [**2145-4-27**] 04:03 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: Will speak to Liver re: restarting hep SQ; pneumoboots limited by
   LE skin integrity and UE lines
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] (nurse) sister
   [**Telephone/Fax (3) 6965**], second HCP is [**Name (NI) 1760**] [**Name (NI) 6399**] - sister -
   (h) [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave msg on cell)
   Code status: Full code
   Disposition: ICU pending liver/renal tx or ability to tolerate HD

2145-04-27 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2145-4-26**] 12:00 PM
   from PICC
 BLOOD CULTURED - At [**2145-4-26**] 06:17 PM
   from a-line
   [**2145-4-26**]
   - Given rising leukocytosis, pancultured; no clear infiltrate on CXR
   - Calcium acetate cannot be crushed. Sevelamer can be crushed - he's
   already on it.
   - Sliding scale tightened
   - Started CVVH in afternoon; per renal, aiming for negative on [**2145-3-27**]
   - Per hepatology note, patient is active on transplant list
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-26**] 10:02 PM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-4-26**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-27**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.7
   HR: 95 (71 - 97) bpm
   BP: 78/43(55) {73/40(51) - 102/53(66)} mmHg
   RR: 18 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,529 mL
                                                                  2,043 mL
   PO:
             TF:
                                                                  1,091 mL
                                                                    295 mL
   IVF:
                                                                  2,748 mL
                                                                  1,598 mL
   Blood products:
   Total out:
                                                                  3,064 mL
                                                                  1,523 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,465 mL
                                                                    520 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.35/48/99.[**Numeric Identifier 299**]/24/0
   Physical Examination
   General: Drowsy but alert, no acute distress
   Skin: Jaundice w/ multiple ecchymoses
   HEENT: Sclera icteric, dry mucous membranes
   Neck: Supple, right Subclavian HD line in place
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonci
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Distended, dull to percussion, soft, non-tender, bowel sounds
   present
   Ext: Warm, well perfused, 2+ pulses, b/l pitting edema to waist
   (stable)
   Labs / Radiology
   46 K/uL
   8.4 g/dL
   172 mg/dL
   8.0 mg/dL
   24 mEq/L
   3.6 mEq/L
   91 mg/dL
   98 mEq/L
   137 mEq/L
   25.0 %
   12.6 K/uL
        [image002.jpg]
                             [**2145-4-25**]  06:45 PM
                             [**2145-4-26**]  03:38 AM
                             [**2145-4-26**]  05:01 AM
                             [**2145-4-26**]  12:00 PM
                             [**2145-4-26**]  10:23 PM
                             [**2145-4-26**]  10:40 PM
                             [**2145-4-27**]  03:16 AM
                             [**2145-4-27**]  04:09 AM
   WBC
   11.2
   12.6
   Hct
   23.8
   25.0
   Plt
   39
   46
   Cr
   7.0
   7.8
   8.5
   8.0
   TCO2
   29
   26
   28
   Glucose
   142
   165
   167
   223
   172
   Other labs: PT / PTT / INR:30.1/77.8/3.1, ALT / AST:63/93, Alk Phos / T
   Bili:171/44.1, Albumin:3.3 g/dL, Ca++:8.5 mg/dL, Mg++:2.5 mg/dL,
   PO4:5.5 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 IMPAIRED SKIN INTEGRITY
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH.
   #) Decompenstated Hep C Cirrhosis:  Decompenated HCV cirrhosis w/
   encepholpathy with rising MELD/INR likely precipitated by SBP c/b
   hepatorenal syndrome
   - Confirm with hepatology service that patient is active on transplant
   list
   - Continue lactulose and rifaximin
   - Continue midodrine and octreotide
   - Trend LFTs, INR, albumin
   - Sarna and urosiol for pruritis
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - CVVH still pending this morning; will watch hemodynamics closely
   - Cont midodrine, octreotide, selevamer
   - f/u renal recs
   #) Leukocytosis:  New. Patient likely unable to mount temperature with
   CVVH. No clear source of infection. Just completed course for SBP, and
   now on prophylaxis. No cough on findings on auscultation to suggest
   pneumonia.
   - Panculture
   - Trend WBC count
   - Continue ciprofloxacin for SBP prophylaxis, as below
   #) Thrombocytopenia/Anemia - [**12-21**] congestive sequestration, underlying
   liver disease. Has been stable of recent.
   - monitor counts daily
   - transfuse for HCT <21, Plts<20
   #) SBP: Resolved, completed antibiotic course. Paracentesis on [**2145-4-24**]
   without evidence of recurrence. S/P 5L tap on [**2145-4-24**]
   - continue to monitor for infection
   - f/u recent paracentesis cultures
   - continue on cipro prophylaxis
   #) Hypotension - likely [**12-21**] fluid shifts at HD as otherwise has been
   stable. No pressor requirment.
   - CVVH for now
   ICU Care
   #) FEN/GI - TF vis Dobhoff, PPI
   #) PPx - Pneumoboots, bowel regimen PRN
   #) Contact: HCP is [**Name (NI) 777**] [**Name (NI) 6397**] (nurse) sister [**Telephone/Fax (3) 6912**], second HCP is [**Name (NI) 1760**] [**Name (NI) 6399**] - sister - (h)
   [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**] (do not leave msg on cell)
   #) Code - Full
   #) Dispo - ICU pending liver/renal tx or ability to tolerate HD
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-27**] 04:03 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-04-28 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2145-4-27**]
   - Increased WBC with 1 band
   - Octreotide discontinued
   - Started SQ heparin
   - Per Hep: appears worse with leukocytosis -> broadened abx from cipro
   to vanc/zosyn. Sisters/HCP refusing paracentesis at this time. Spoke to
   Hep fellow and attg regarding this. Plan for family mtg around 1-2pm
   tomorrow.
   - Goal I/O net neg on CVVH but limited by BP. Levophed uptitrated;
   given fluid back via CVVH. Given 1 unit pRBC for volume expansion as
   Hct 22. Started on vasopressin. Able to wean off some levophed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-26**] 10:02 PM
   Vancomycin - [**2145-4-27**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-28**] 04:28 AM
   Infusions:
   Calcium Gluconate (CRRT) - 2.1 grams/hour
   Vasopressin - 1.2 units/hour
   KCl (CRRT) - 2 mEq./hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-4-27**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2145-4-27**] 10:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-28**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 102 (89 - 115) bpm
   BP: 78/48(58) {72/43(53) - 101/56(69)} mmHg
   RR: 12 (11 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
           Total In:
                                                                  8,605 mL
                                                                  3,180 mL
   PO:
           TF:
                                                                    877 mL
                                                                    295 mL
   IVF:
                                                                  6,992 mL
                                                                  2,212 mL
   Blood products:
   553 mL
   Total out:
                                                                  7,859 mL
                                                                  1,682 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    746 mL
                                                                  1,498 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.38/39/85.[**Numeric Identifier 299**]/21/-1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   61 K/uL
   8.1 g/dL
   229
   5.5 mg/dL
   21 mEq/L
   4.2 mEq/L
   64 mg/dL
   96 mEq/L
   135 mEq/L
   23.4 %
   11.9 K/uL
        [image002.jpg]
                             [**2145-4-27**]  09:28 AM
                             [**2145-4-27**]  09:38 AM
                             [**2145-4-27**]  03:19 PM
                             [**2145-4-27**]  03:33 PM
                             [**2145-4-27**]  09:39 PM
                             [**2145-4-27**]  10:12 PM
                             [**2145-4-28**]  12:28 AM
                             [**2145-4-28**]  12:44 AM
                             [**2145-4-28**]  04:04 AM
                             [**2145-4-28**]  04:18 AM
   WBC
   11.9
   Hct
   22.7
   23.4
   Plt
   56
   61
   Cr
   6.0
   6.0
   5.5
   TCO2
   26
   28
   25
   25
   24
   Glucose
   171
   157
   167
   208
   229
   Other labs: PT / PTT / INR:30.1/77.8/3.1, ALT / AST:63/93, Alk Phos / T
   Bili:171/44.1, Differential-Neuts:81.1 %, Band:0.0 %, Lymph:9.8 %,
   Mono:7.1 %, Eos:1.4 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-28**] 01:11 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-04-28 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2145-4-27**]
   - Increased WBC with 1 band
   - Octreotide discontinued
   - Started SQ heparin
   - Per Hep: appears worse with leukocytosis -> broadened abx from cipro
   to vanc/zosyn. Sisters/HCP refusing paracentesis at this time. Spoke to
   Hep fellow and attg regarding this. Plan for family mtg around 1-2pm
   tomorrow.
   - Goal I/O net neg on CVVH but limited by BP. Levophed uptitrated;
   given fluid back via CVVH. Given 1 unit pRBC for volume expansion as
   Hct 22. Started on vasopressin. Able to wean off some levophed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-26**] 10:02 PM
   Vancomycin - [**2145-4-27**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-28**] 04:28 AM
   Infusions:
   Calcium Gluconate (CRRT) - 2.1 grams/hour
   Vasopressin - 1.2 units/hour
   KCl (CRRT) - 2 mEq./hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-4-27**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2145-4-27**] 10:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-28**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 102 (89 - 115) bpm
   BP: 78/48(58) {72/43(53) - 101/56(69)} mmHg
   RR: 12 (11 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
           Total In:
                                                                  8,605 mL
                                                                  3,180 mL
   PO:
           TF:
                                                                    877 mL
                                                                    295 mL
   IVF:
                                                                  6,992 mL
                                                                  2,212 mL
   Blood products:
   553 mL
   Total out:
                                                                  7,859 mL
                                                                  1,682 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    746 mL
                                                                  1,498 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.38/39/85.[**Numeric Identifier 299**]/21/-1
   Physical Examination
   General: Drowsy but alert, no acute distress
   Skin: Jaundice w/ multiple ecchymoses
   HEENT: Sclera icteric, dry mucous membranes
   Neck: Supple, right Subclavian HD line in place
   Lungs: Clear to auscultation anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Distended, dull to percussion, soft, non-tender, bowel sounds
   present
   Ext: Warm, well perfused,  b/l pitting edema to waist (stable)
   Labs / Radiology
   61 K/uL
   8.1 g/dL
   229
   5.5 mg/dL
   21 mEq/L
   4.2 mEq/L
   64 mg/dL
   96 mEq/L
   135 mEq/L
   23.4 %
   11.9 K/uL
        [image002.jpg]
                             [**2145-4-27**]  09:28 AM
                             [**2145-4-27**]  09:38 AM
                             [**2145-4-27**]  03:19 PM
                             [**2145-4-27**]  03:33 PM
                             [**2145-4-27**]  09:39 PM
                             [**2145-4-27**]  10:12 PM
                             [**2145-4-28**]  12:28 AM
                             [**2145-4-28**]  12:44 AM
                             [**2145-4-28**]  04:04 AM
                             [**2145-4-28**]  04:18 AM
   WBC
   11.9
   Hct
   22.7
   23.4
   Plt
   56
   61
   Cr
   6.0
   6.0
   5.5
   TCO2
   26
   28
   25
   25
   24
   Glucose
   171
   157
   167
   208
   229
   Other labs: PT / PTT / INR:30.1/77.8/3.1, ALT / AST:63/93, Alk Phos / T
   Bili:171/44.1, Differential-Neuts:81.1 %, Band:0.0 %, Lymph:9.8 %,
   Mono:7.1 %, Eos:1.4 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-28**] 01:11 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-04-28 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2145-4-27**]
   - Increased WBC with 1 band
   - Octreotide discontinued
   - Started SQ heparin
   - Per Hep: appears worse with leukocytosis -> broadened abx from cipro
   to vanc/zosyn. Sisters/HCP refusing paracentesis at this time. Spoke to
   Hep fellow and attg regarding this. Plan for family mtg around 1-2pm
   tomorrow.
   - Goal I/O net neg on CVVH but limited by BP. Levophed uptitrated;
   given fluid back via CVVH. Given 1 unit pRBC for volume expansion as
   Hct 22. Started on vasopressin. Able to wean off some levophed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-26**] 10:02 PM
   Vancomycin - [**2145-4-27**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-28**] 04:28 AM
   Infusions:
   Calcium Gluconate (CRRT) - 2.1 grams/hour
   Vasopressin - 1.2 units/hour
   KCl (CRRT) - 2 mEq./hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-4-27**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2145-4-27**] 10:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-28**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 102 (89 - 115) bpm
   BP: 78/48(58) {72/43(53) - 101/56(69)} mmHg
   RR: 12 (11 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
           Total In:
                                                                  8,605 mL
                                                                  3,180 mL
   PO:
           TF:
                                                                    877 mL
                                                                    295 mL
   IVF:
                                                                  6,992 mL
                                                                  2,212 mL
   Blood products:
   553 mL
   Total out:
                                                                  7,859 mL
                                                                  1,682 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    746 mL
                                                                  1,498 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.38/39/85.[**Numeric Identifier 299**]/21/-1
   Physical Examination
   General: Drowsy but alert, no acute distress
   Skin: Jaundice w/ multiple ecchymoses
   HEENT: Sclera icteric, dry mucous membranes
   Neck: Supple, right Subclavian HD line in place
   Lungs: Clear to auscultation anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Distended, dull to percussion, soft, non-tender, bowel sounds
   present
   Ext: Warm, well perfused,  b/l pitting edema to waist (stable)
   Labs / Radiology
   61 K/uL
   8.1 g/dL
   229
   5.5 mg/dL
   21 mEq/L
   4.2 mEq/L
   64 mg/dL
   96 mEq/L
   135 mEq/L
   23.4 %
   11.9 K/uL
        [image002.jpg]
                             [**2145-4-27**]  09:28 AM
                             [**2145-4-27**]  09:38 AM
                             [**2145-4-27**]  03:19 PM
                             [**2145-4-27**]  03:33 PM
                             [**2145-4-27**]  09:39 PM
                             [**2145-4-27**]  10:12 PM
                             [**2145-4-28**]  12:28 AM
                             [**2145-4-28**]  12:44 AM
                             [**2145-4-28**]  04:04 AM
                             [**2145-4-28**]  04:18 AM
   WBC
   11.9
   Hct
   22.7
   23.4
   Plt
   56
   61
   Cr
   6.0
   6.0
   5.5
   TCO2
   26
   28
   25
   25
   24
   Glucose
   171
   157
   167
   208
   229
   Other labs: PT / PTT / INR:30.1/77.8/3.1, ALT / AST:63/93, Alk Phos / T
   Bili:171/44.1, Differential-Neuts:81.1 %, Band:0.0 %, Lymph:9.8 %,
   Mono:7.1 %, Eos:1.4 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 IMPAIRED SKIN INTEGRITY
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH.
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. No e/o recurrence
   on [**2145-4-24**] paracentesis (s/p 5L removal) and completed abx course
   although increased leukocytosis concerning for recurrence.  Family has
   refused dx paracentesis stating his BP only got worse with CVVH and he
   should restart on HD.  Cx Neg thus far.
   - Family meeting today at 12 or 1 PM.
   - Continue lactulose and rifaximin
   - Continue midodrine
   - Trend LFTs, INR, albumin
   - Sarna and urosiol for pruritis
   - Continue Vanc/Zosyn
   #) Leukocytosis:  Mild increase. Patient likely unable to mount
   temperature with CVVH. No clear source of infection but SBP would be
   likeliest source. Just completed course for SBP, and now on
   prophylaxis. No cough or findings on auscultation to suggest pneumonia.
   - Panculture if spikes
   - Trend WBC count and fever curve; add diff
   - Continue ciprofloxacin for SBP prophylaxis as above; consider repeat
   paracentesis
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - Cont CVVH; will watch hemodynamics closely
   - goal negative fluid balance as long as not requiring levophed > 0.2
   - Cont midodrine, selevamer; d/c octreotide
   - F/u renal recs
   #) Hypotension - likely [**12-21**] fluid shifts at HD as otherwise has been
   stable on midodrine
   - Cont CVVH and midodrine for now
   #) Thrombocytopenia/Anemia - [**12-21**] congestive sequestration, underlying
   liver disease. Has been stable of recent.
   - Monitor counts daily
   - Transfuse for HCT <21, Plts<20
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-28**] 01:11 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-04-28 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2145-4-27**]
   - Increased WBC with 1 band
   - Octreotide discontinued
   - Started SQ heparin
   - Per Hep: appears worse with leukocytosis -> broadened abx from cipro
   to vanc/zosyn. Sisters/HCP refusing paracentesis at this time. Spoke to
   Hep fellow and attg regarding this. Plan for family mtg around 1-2pm
   tomorrow.
   - Goal I/O net neg on CVVH but limited by BP. Levophed uptitrated;
   given fluid back via CVVH. Given 1 unit pRBC for volume expansion as
   Hct 22. Started on vasopressin. Able to wean off some levophed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-26**] 10:02 PM
   Vancomycin - [**2145-4-27**] 04:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-28**] 04:28 AM
   Infusions:
   Calcium Gluconate (CRRT) - 2.1 grams/hour
   Vasopressin - 1.2 units/hour
   KCl (CRRT) - 2 mEq./hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-4-27**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2145-4-27**] 10:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-28**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 102 (89 - 115) bpm
   BP: 78/48(58) {72/43(53) - 101/56(69)} mmHg
   RR: 12 (11 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
           Total In:
                                                                  8,605 mL
                                                                  3,180 mL
   PO:
           TF:
                                                                    877 mL
                                                                    295 mL
   IVF:
                                                                  6,992 mL
                                                                  2,212 mL
   Blood products:
   553 mL
   Total out:
                                                                  7,859 mL
                                                                  1,682 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    746 mL
                                                                  1,498 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.38/39/85.[**Numeric Identifier 299**]/21/-1
   Physical Examination
   General: Drowsy but alert, no acute distress
   Skin: Jaundice w/ multiple ecchymoses
   HEENT: Sclera icteric, dry mucous membranes
   Neck: Supple, right Subclavian HD line in place
   Lungs: Clear to auscultation anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Distended, dull to percussion, soft, non-tender, bowel sounds
   present
   Ext: Warm, well perfused,  b/l pitting edema to waist (stable). L>R
   oozing.
   Labs / Radiology
   61 K/uL
   8.1 g/dL
   229
   5.5 mg/dL
   21 mEq/L
   4.2 mEq/L
   64 mg/dL
   96 mEq/L
   135 mEq/L
   23.4 %
   11.9 K/uL
        [image002.jpg]
                             [**2145-4-27**]  09:28 AM
                             [**2145-4-27**]  09:38 AM
                             [**2145-4-27**]  03:19 PM
                             [**2145-4-27**]  03:33 PM
                             [**2145-4-27**]  09:39 PM
                             [**2145-4-27**]  10:12 PM
                             [**2145-4-28**]  12:28 AM
                             [**2145-4-28**]  12:44 AM
                             [**2145-4-28**]  04:04 AM
                             [**2145-4-28**]  04:18 AM
   WBC
   11.9
   Hct
   22.7
   23.4
   Plt
   56
   61
   Cr
   6.0
   6.0
   5.5
   TCO2
   26
   28
   25
   25
   24
   Glucose
   171
   157
   167
   208
   229
   Other labs: PT / PTT / INR:30.1/77.8/3.1, ALT / AST:63/93, Alk Phos / T
   Bili:171/44.1, Differential-Neuts:81.1 %, Band:0.0 %, Lymph:9.8 %,
   Mono:7.1 %, Eos:1.4 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan:
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH.
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Family has refused
   dx paracentesis.  Broadened abx empirically.  Cx Neg thus far.
   - Family meeting today at 1 PM to discuss paracentesis.
   - Continue lactulose and rifaximin
   - Continue midodrine
   - Trend LFTs, INR, albumin
   - Sarna and urosiol for pruritis
   - Continue Vanc/Zosyn (day 2) and cipro
   - currently not able to be transplanted given question of SBP and
   unstable medical condition
   #) Leukocytosis:  Stable-decreasing. Patient likely unable to mount
   temperature with CVVH. No clear source of infection but SBP would be
   likeliest source.
   - Panculture if spikes
   - Trend WBC count and fever curve; add diff
   - Continue vanc/zosyn/cipro.
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - Cont CVVH; will watch hemodynamics closely
   - goal negative fluid balance as long as not requiring levophed > 0.2
   - Cont midodrine, selevamer; d/c octreotide
   - F/u renal recs
   #) Hypotension - likely [**12-21**] fluid shifts at HD. BPs trending down
   yesterday requiring addition of vasopressin, however able to then wean
   levophed to 0.2.
   - Cont CVVH midodrine, levophed, vasopressin. Titrate down as able
   #) Thrombocytopenia/Anemia - [**12-21**] congestive sequestration, underlying
   liver disease. Has been stable.
   - Monitor counts daily
   - Transfuse for HCT <21, Plts<20
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-28**] 01:11 AM 45 mL/hour
   Glycemic Control:  ISS
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code->family meeting today around 1pm to discuss GOC
   Disposition:ICU

2145-04-29 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Family meeting with liver team explained the gravity of his
   situation.  Ultimately, will give him a couple days and if still not
   improving, may move toward CMO.  Unclear how much the family agrees
   with this.
   - No diagnostic para as of [**4-28**].
   - Tolerated taking fluid off in evening.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-26**] 10:02 PM
   Vancomycin - [**2145-4-28**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-28**] 10:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 2.1 grams/hour
   Norepinephrine - 0.2 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-4-29**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-29**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 99 (95 - 108) bpm
   BP: 83/48(59) {60/40(48) - 112/68(80)} mmHg
   RR: 11 (9 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                 10,025 mL
                                                                  2,873 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    298 mL
   IVF:
                                                                  7,852 mL
                                                                  2,365 mL
   Blood products:
                                                                    553 mL
   Total out:
                                                                 10,010 mL
                                                                  2,734 mL
   Urine:
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                     15 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.32/47/91.[**Numeric Identifier 253**]/21/-2
   Physical Examination
   General: Drowsy but alert, no acute distress
   Skin: Jaundice w/ multiple ecchymoses
   HEENT: Sclera icteric, dry mucous membranes
   Neck: Supple, right Subclavian HD line in place
   Lungs: Clear to auscultation anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Distended, dull to percussion, soft, non-tender, bowel sounds
   present
   Ext: Warm, well perfused,  b/l pitting edema to waist (stable). L>R
   oozing.
   Labs / Radiology
   55 K/uL
   9.3 g/dL
   225 mg/dL
   4.0 mg/dL
   21 mEq/L
   4.2 mEq/L
   51 mg/dL
   95 mEq/L
   133 mEq/L
   26.2 %
   14.5 K/uL
        [image002.jpg]
                             [**2145-4-28**]  04:18 AM
                             [**2145-4-28**]  10:17 AM
                             [**2145-4-28**]  10:27 AM
                             [**2145-4-28**]  04:18 PM
                             [**2145-4-28**]  04:55 PM
                             [**2145-4-28**]  06:43 PM
                             [**2145-4-28**]  10:09 PM
                             [**2145-4-28**]  10:28 PM
                             [**2145-4-29**]  03:48 AM
                             [**2145-4-29**]  04:02 AM
   WBC
   12.4
   12.7
   14.5
   Hct
   26.7
   25.9
   26.2
   Plt
   57
   56
   55
   Cr
   4.5
   4.0
   TCO2
   24
   23
   42
   26
   24
   25
   Glucose
   [**Telephone/Fax (3) 6996**]25
   Other labs: PT / PTT / INR:32.9/100.7/3.4, ALT / AST:83/115, Alk Phos /
   T Bili:167/47.9, Differential-Neuts:81.1 %, Band:0.0 %, Lymph:9.8 %,
   Mono:7.1 %, Eos:1.4 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   55M ESLD, ESRD, chronic low blood pressure admitted for CVVH and
   pressor support while awaiting liver / kidney transplant. WBC 12K, BP
   down, now on levo and vasopressin. Family has declined paracentesis,
   abx broadened to vanco / zosyn / cipro, xfused one unit PRBCs.
   Exam notable for Tm 98.2 BP 85/50 HR 80-100 RR 18 with sat 99 on 2LNC.
   Markedly icteric man, NAD. Answers simple questions, c/o mild abd pain.
   CTA B. RRRs1s2. Soft distended. 3+ edema. Labs notable for WBC 12K, HCT
   22, K+ 4.2, Cr 5.5, INR 3.1, t. bili 44.
   Agree with plan to manage ESLD / ESRD with lactulose and rifaximin for
   encephalopathy, midodrine for HRS / ARF, and CVVH with vasopressor
   support for ongoing hypotension; goal TBB even. Pan cultured yesterday,
   will continue broad antibiotic coverage, check CXR, and d/w family re
   role of paracentesis and overall plan of care. Will continue to discuss
   management with liver transplant and surgery. Remainder of plan as
   outlined above.
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension
 Able to run net even yesterday on CVVH but still
   requiring double pressor support. On broad antibiotic coverage due to
   concern for sepsis with increasing leukocytosis.
   - Cont CVVH with midodrine, levophed, vasopressin with goal to wean
   pressors; would like to run negative if able
   - Cont vanc/zosyn (D3) and cipro (D2 tx dose)
   #) Leukocytosis: Increasing. Patient likely unable to mount temperature
   with CVVH. No clear source of infection but SBP would be likeliest
   source. Family refused 2 days ago but reconsider if clinical status
   worsening on empiric abx treatment.
   - Panculture if spikes
   - Trend WBC count and fever curve; add diff to AM labs
   - Check C. diff as not covering currently
   - Rediscuss with GI and family need for diagnostic paracentesis
   - Continue vanc/zosyn/cipro for now
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given question of SBP and unstable medical
   condition. Rising leukocytosis and LFTs on broadened abx with neg cx to
   date.
   - Continue lactulose and rifaximin
   - Trend LFTs, INR, albumin
   - Sarna and urosiol for pruritis
   - Continue vanc/zosyn/cipro
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - Cont CVVH; will watch hemodynamics closely
   - Goal negative fluid balance if able to wean pressors
   - Cont midodrine, selevamer; d/c octreotide
   - F/u renal recs
   #) Thrombocytopenia/Anemia - [**12-21**] congestive sequestration, underlying
   liver disease. Has been stable.
   - Monitor counts daily
   - Transfuse for Hct <21, Plts<20
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-29**] 04:47 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: With pt and sisters. HCP1 is [**First Name4 (NamePattern1) 777**] [**Last Name (NamePattern1) 6397**]
   (nurse) [**Telephone/Fax (3) 6965**], HCP2 is [**First Name8 (NamePattern2) 1760**] [**Last Name (NamePattern1) 6399**] (h)
   [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**].
   Code status: Full code
   Disposition: ICU

2145-04-29 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Family meeting with liver team explained the gravity of his
   situation.  Ultimately, will give him a couple days and if still not
   improving, may move toward CMO.  Unclear how much the family agrees
   with this.
   - No diagnostic para as of [**4-28**].
   - Tolerated taking fluid off in evening.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-26**] 10:02 PM
   Vancomycin - [**2145-4-28**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-28**] 10:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 2.1 grams/hour
   Norepinephrine - 0.2 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-4-29**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-29**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 99 (95 - 108) bpm
   BP: 83/48(59) {60/40(48) - 112/68(80)} mmHg
   RR: 11 (9 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                 10,025 mL
                                                                  2,873 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    298 mL
   IVF:
                                                                  7,852 mL
                                                                  2,365 mL
   Blood products:
                                                                    553 mL
   Total out:
                                                                 10,010 mL
                                                                  2,734 mL
   Urine:
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                     15 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.32/47/91.[**Numeric Identifier 253**]/21/-2
   Physical Examination
   General: Drowsy but alert, no acute distress
   Skin: Jaundice w/ multiple ecchymoses
   HEENT: Sclera icteric, dry mucous membranes
   Neck: Supple, right Subclavian HD line in place
   Lungs: Clear to auscultation anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Distended, dull to percussion, soft, non-tender, bowel sounds
   present
   Ext: Warm, well perfused,  b/l pitting edema to waist (stable). L>R
   oozing.
   Labs / Radiology
   55 K/uL
   9.3 g/dL
   225 mg/dL
   4.0 mg/dL
   21 mEq/L
   4.2 mEq/L
   51 mg/dL
   95 mEq/L
   133 mEq/L
   26.2 %
   14.5 K/uL
        [image002.jpg]
                             [**2145-4-28**]  04:18 AM
                             [**2145-4-28**]  10:17 AM
                             [**2145-4-28**]  10:27 AM
                             [**2145-4-28**]  04:18 PM
                             [**2145-4-28**]  04:55 PM
                             [**2145-4-28**]  06:43 PM
                             [**2145-4-28**]  10:09 PM
                             [**2145-4-28**]  10:28 PM
                             [**2145-4-29**]  03:48 AM
                             [**2145-4-29**]  04:02 AM
   WBC
   12.4
   12.7
   14.5
   Hct
   26.7
   25.9
   26.2
   Plt
   57
   56
   55
   Cr
   4.5
   4.0
   TCO2
   24
   23
   42
   26
   24
   25
   Glucose
   [**Telephone/Fax (3) 6996**]25
   Other labs: PT / PTT / INR:32.9/100.7/3.4, ALT / AST:83/115, Alk Phos /
   T Bili:167/47.9, Differential-Neuts:81.1 %, Band:0.0 %, Lymph:9.8 %,
   Mono:7.1 %, Eos:1.4 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension
 Able to run net even yesterday on CVVH but still
   requiring double pressor support. On broad antibiotic coverage due to
   concern for sepsis with increasing leukocytosis.
   - Cont CVVH with midodrine, levophed, vasopressin with goal to wean
   pressors; would like to run negative if able
   - Cont vanc/zosyn (D3) and cipro (D2 tx dose)
   #) Leukocytosis: Increasing. Patient likely unable to mount temperature
   with CVVH. No clear source of infection but SBP would be likeliest
   source. Family refused 2 days ago but reconsider if clinical status
   worsening on empiric abx treatment.
   - Panculture if spikes
   - Trend WBC count and fever curve; add diff to AM labs
   - Check C. diff as not covering currently
   - Rediscuss with GI and family need for diagnostic paracentesis
   - Continue vanc/zosyn/cipro for now
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given question of SBP and unstable medical
   condition. Rising leukocytosis and LFTs on broadened abx with neg cx to
   date.
   - Continue lactulose and rifaximin
   - Trend LFTs, INR, albumin
   - Sarna and urosiol for pruritis
   - Continue vanc/zosyn/cipro
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - Cont CVVH; will watch hemodynamics closely
   - Goal negative fluid balance if able to wean pressors
   - Cont midodrine, selevamer; d/c octreotide
   - F/u renal recs
   #) Thrombocytopenia/Anemia - [**12-21**] congestive sequestration, underlying
   liver disease. Has been stable.
   - Monitor counts daily
   - Transfuse for Hct <21, Plts<20
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-29**] 04:47 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: With pt and sisters. HCP1 is [**First Name4 (NamePattern1) 777**] [**Last Name (NamePattern1) 6397**]
   (nurse) [**Telephone/Fax (3) 6965**], HCP2 is [**First Name8 (NamePattern2) 1760**] [**Last Name (NamePattern1) 6399**] (h)
   [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**].
   Code status: Full code
   Disposition: ICU

2145-04-29 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Family meeting with liver team explained the gravity of his
   situation.  Ultimately, will give him a couple days and if still not
   improving, may move toward CMO.  Unclear how much the family agrees
   with this.
   - Tolerated taking fluid off in evening but remained on two pressors.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-26**] 10:02 PM
   Vancomycin - [**2145-4-28**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-28**] 10:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 2.1 grams/hour
   Norepinephrine - 0.2 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-4-29**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-29**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 99 (95 - 108) bpm
   BP: 83/48(59) {60/40(48) - 112/68(80)} mmHg
   RR: 11 (9 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                 10,025 mL
                                                                  2,873 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    298 mL
   IVF:
                                                                  7,852 mL
                                                                  2,365 mL
   Blood products:
                                                                    553 mL
   Total out:
                                                                 10,010 mL
                                                                  2,734 mL
   Urine:
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                     15 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.32/47/91.[**Numeric Identifier 253**]/21/-2
   Physical Examination
   General: Drowsy but alert, no acute distress
   Skin: Jaundice w/ multiple ecchymoses
   HEENT: Sclera icteric, dry mucous membranes
   Neck: Supple, right Subclavian HD line in place
   Lungs: Clear to auscultation anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Distended, dull to percussion, soft, non-tender, bowel sounds
   present
   Ext: Warm, well perfused,  b/l pitting edema to waist (stable). L>R
   oozing.
   Labs / Radiology
   55 K/uL
   9.3 g/dL
   225 mg/dL
   4.0 mg/dL
   21 mEq/L
   4.2 mEq/L
   51 mg/dL
   95 mEq/L
   133 mEq/L
   26.2 %
   14.5 K/uL
        [image002.jpg]
                             [**2145-4-28**]  04:18 AM
                             [**2145-4-28**]  10:17 AM
                             [**2145-4-28**]  10:27 AM
                             [**2145-4-28**]  04:18 PM
                             [**2145-4-28**]  04:55 PM
                             [**2145-4-28**]  06:43 PM
                             [**2145-4-28**]  10:09 PM
                             [**2145-4-28**]  10:28 PM
                             [**2145-4-29**]  03:48 AM
                             [**2145-4-29**]  04:02 AM
   WBC
   12.4
   12.7
   14.5
   Hct
   26.7
   25.9
   26.2
   Plt
   57
   56
   55
   Cr
   4.5
   4.0
   TCO2
   24
   23
   42
   26
   24
   25
   Glucose
   [**Telephone/Fax (3) 6996**]25
   Other labs: PT / PTT / INR:32.9/100.7/3.4, ALT / AST:83/115, Alk Phos /
   T Bili:167/47.9, Differential-Neuts:81.1 %, Band:0.0 %, Lymph:9.8 %,
   Mono:7.1 %, Eos:1.4 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension
 Able to run net even yesterday on CVVH but still
   requiring double pressor support. On broad antibiotic coverage due to
   concern for sepsis with increasing leukocytosis.
   - Cont CVVH with midodrine, levophed, vasopressin with goal to wean
   pressors; would like to run negative if able
   - Cont vanc/zosyn (D3) and cipro (D2 tx dose)
   #) Leukocytosis: Increasing. Patient likely unable to mount temperature
   with CVVH. No clear source of infection but SBP would be likeliest
   source. Family refused 2 days ago but reconsider if clinical status
   worsening on empiric abx treatment.
   - Panculture if spikes
   - Trend WBC count and fever curve; add diff to AM labs
   - Check C. diff as not covering currently
   - Rediscuss with GI and family need for diagnostic paracentesis
   - Continue vanc/zosyn/cipro for now
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given question of SBP and unstable medical
   condition. Rising leukocytosis and LFTs on broadened abx with neg cx to
   date likely from SBP.
   - D/W family transplant options with liver team today because may never
   be well enough to have transplant
   - Continue lactulose and rifaximin
   - Trend LFTs, INR, albumin
   - Sarna and urosidiol for pruritis
   - Continue vanc/zosyn/cipro ->may consider anti-fungals if pressor
   requirement increases, fevers, decompensation
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - Cont CVVH; will watch hemodynamics closely
   - Goal negative fluid balance if able to wean pressors
   - Cont midodrine, selevamer; d/c octreotide
   - F/u renal recs
   #) Thrombocytopenia/Anemia - [**12-21**] congestive sequestration, underlying
   liver disease. Has been stable.
   - Monitor counts daily
   - Transfuse for Hct <21, Plts<20
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-29**] 04:47 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: With pt and sisters. HCP1 is [**First Name4 (NamePattern1) 777**] [**Last Name (NamePattern1) 6397**]
   (nurse) [**Telephone/Fax (3) 6965**], HCP2 is [**First Name8 (NamePattern2) 1760**] [**Last Name (NamePattern1) 6399**] (h)
   [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**].
   Code status: Full code
   Disposition: ICU

2145-04-29 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Family meeting with liver team explained the gravity of his
   situation.  Ultimately, will give him a couple days and if still not
   improving, may move toward CMO.  Unclear how much the family agrees
   with this.
   - No diagnostic para as of [**4-28**].
   - Tolerated taking fluid off in evening.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-26**] 10:02 PM
   Vancomycin - [**2145-4-28**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-28**] 10:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 2.1 grams/hour
   Norepinephrine - 0.2 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-4-29**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-29**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 99 (95 - 108) bpm
   BP: 83/48(59) {60/40(48) - 112/68(80)} mmHg
   RR: 11 (9 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                 10,025 mL
                                                                  2,873 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    298 mL
   IVF:
                                                                  7,852 mL
                                                                  2,365 mL
   Blood products:
                                                                    553 mL
   Total out:
                                                                 10,010 mL
                                                                  2,734 mL
   Urine:
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                     15 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.32/47/91.[**Numeric Identifier 253**]/21/-2
   Physical Examination
   General: Drowsy but alert, no acute distress
   Skin: Jaundice w/ multiple ecchymoses
   HEENT: Sclera icteric, dry mucous membranes
   Neck: Supple, right Subclavian HD line in place
   Lungs: Clear to auscultation anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Distended, dull to percussion, soft, non-tender, bowel sounds
   present
   Ext: Warm, well perfused,  b/l pitting edema to waist (stable). L>R
   oozing.
   Labs / Radiology
   55 K/uL
   9.3 g/dL
   225 mg/dL
   4.0 mg/dL
   21 mEq/L
   4.2 mEq/L
   51 mg/dL
   95 mEq/L
   133 mEq/L
   26.2 %
   14.5 K/uL
        [image002.jpg]
                             [**2145-4-28**]  04:18 AM
                             [**2145-4-28**]  10:17 AM
                             [**2145-4-28**]  10:27 AM
                             [**2145-4-28**]  04:18 PM
                             [**2145-4-28**]  04:55 PM
                             [**2145-4-28**]  06:43 PM
                             [**2145-4-28**]  10:09 PM
                             [**2145-4-28**]  10:28 PM
                             [**2145-4-29**]  03:48 AM
                             [**2145-4-29**]  04:02 AM
   WBC
   12.4
   12.7
   14.5
   Hct
   26.7
   25.9
   26.2
   Plt
   57
   56
   55
   Cr
   4.5
   4.0
   TCO2
   24
   23
   42
   26
   24
   25
   Glucose
   [**Telephone/Fax (3) 6996**]25
   Other labs: PT / PTT / INR:32.9/100.7/3.4, ALT / AST:83/115, Alk Phos /
   T Bili:167/47.9, Differential-Neuts:81.1 %, Band:0.0 %, Lymph:9.8 %,
   Mono:7.1 %, Eos:1.4 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   55M ESLD, ESRD, chronic low blood pressure admitted for CVVH and
   pressor support while awaiting liver / kidney transplant. WBC 12K, BP
   down, now on levo and vasopressin. Family has declined paracentesis,
   abx broadened to vanco / zosyn / cipro, xfused one unit PRBCs.
   Exam notable for Tm 98.2 BP 85/50 HR 80-100 RR 18 with sat 99 on 2LNC.
   Markedly icteric man, NAD. Answers simple questions, c/o mild abd pain.
   CTA B. RRRs1s2. Soft distended. 3+ edema. Labs notable for WBC 12K, HCT
   22, K+ 4.2, Cr 5.5, INR 3.1, t. bili 44.
   Agree with plan to manage ESLD / ESRD with lactulose and rifaximin for
   encephalopathy, midodrine for HRS / ARF, and CVVH with vasopressor
   support for ongoing hypotension; goal TBB even. Pan cultured yesterday,
   will continue broad antibiotic coverage, check CXR, and d/w family re
   role of paracentesis and overall plan of care. Will continue to discuss
   management with liver transplant and surgery. Remainder of plan as
   outlined above.
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension
 Requiring double pressor support on CVVH but able to
   run even yesterday. - Cont CVVH midodrine, levophed, vasopressin.
   Titrate down as able
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Family has refused
   dx paracentesis.  Broadened abx empirically.  Cx Neg thus far.
   - Continue lactulose and rifaximin
   - Continue midodrine
   - Trend LFTs, INR, albumin
   - Sarna and urosiol for pruritis
   - Continue Vanc/Zosyn (day 2) and cipro
   - currently not able to be transplanted given question of SBP and
   unstable medical condition
   #) Leukocytosis:  Stable-decreasing. Patient likely unable to mount
   temperature with CVVH. No clear source of infection but SBP would be
   likeliest source.
   - Panculture if spikes
   - Trend WBC count and fever curve; add diff
   - Continue vanc/zosyn/cipro.
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - Cont CVVH; will watch hemodynamics closely
   - goal negative fluid balance as long as not requiring levophed > 0.2
   - Cont midodrine, selevamer; d/c octreotide
   - F/u renal recs
   #) Thrombocytopenia/Anemia - [**12-21**] congestive sequestration, underlying
   liver disease. Has been stable.
   - Monitor counts daily
   - Transfuse for HCT <21, Plts<20
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-29**] 04:47 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2145-04-29 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Family meeting with liver team explained the gravity of his
   situation.  Ultimately, will give him a couple days and if still not
   improving, may move toward CMO.  Unclear how much the family agrees
   with this.
   - Tolerated taking fluid off in evening but remained on two pressors.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-4-26**] 10:02 PM
   Vancomycin - [**2145-4-28**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-28**] 10:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 2.1 grams/hour
   Norepinephrine - 0.2 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-4-29**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-29**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 99 (95 - 108) bpm
   BP: 83/48(59) {60/40(48) - 112/68(80)} mmHg
   RR: 11 (9 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                 10,025 mL
                                                                  2,873 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    298 mL
   IVF:
                                                                  7,852 mL
                                                                  2,365 mL
   Blood products:
                                                                    553 mL
   Total out:
                                                                 10,010 mL
                                                                  2,734 mL
   Urine:
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                     15 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.32/47/91.[**Numeric Identifier 253**]/21/-2
   Physical Examination
   General: Drowsy but alert, no acute distress
   Skin: Jaundice w/ multiple ecchymoses
   HEENT: Sclera icteric, dry mucous membranes
   Neck: Supple, right Subclavian HD line in place
   Lungs: Clear to auscultation anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Distended, dull to percussion, soft, non-tender, bowel sounds
   present
   Ext: Warm, well perfused,  b/l pitting edema to waist (stable). L>R
   oozing.
   Labs / Radiology
   55 K/uL
   9.3 g/dL
   225 mg/dL
   4.0 mg/dL
   21 mEq/L
   4.2 mEq/L
   51 mg/dL
   95 mEq/L
   133 mEq/L
   26.2 %
   14.5 K/uL
        [image002.jpg]
                             [**2145-4-28**]  04:18 AM
                             [**2145-4-28**]  10:17 AM
                             [**2145-4-28**]  10:27 AM
                             [**2145-4-28**]  04:18 PM
                             [**2145-4-28**]  04:55 PM
                             [**2145-4-28**]  06:43 PM
                             [**2145-4-28**]  10:09 PM
                             [**2145-4-28**]  10:28 PM
                             [**2145-4-29**]  03:48 AM
                             [**2145-4-29**]  04:02 AM
   WBC
   12.4
   12.7
   14.5
   Hct
   26.7
   25.9
   26.2
   Plt
   57
   56
   55
   Cr
   4.5
   4.0
   TCO2
   24
   23
   42
   26
   24
   25
   Glucose
   [**Telephone/Fax (3) 6996**]25
   Other labs: PT / PTT / INR:32.9/100.7/3.4, ALT / AST:83/115, Alk Phos /
   T Bili:167/47.9, Differential-Neuts:81.1 %, Band:0.0 %, Lymph:9.8 %,
   Mono:7.1 %, Eos:1.4 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension
 Able to run net even yesterday on CVVH but still
   requiring double pressor support. On broad antibiotic coverage due to
   concern for sepsis with increasing leukocytosis.
   - Cont CVVH with midodrine, levophed, vasopressin with goal to wean
   pressors; would like to run negative if able
   - Cont vanc/zosyn (D3) and cipro (D2 tx dose)
   #) Leukocytosis: Increasing. Patient likely unable to mount temperature
   with CVVH. No clear source of infection but SBP would be likeliest
   source. Family refused 2 days ago but reconsider if clinical status
   worsening on empiric abx treatment.
   - Panculture if spikes
   - Trend WBC count and fever curve; add diff to AM labs
   - Check C. diff as not covering currently
   - Rediscuss with GI and family need for diagnostic paracentesis
   - Continue vanc/zosyn/cipro for now
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given question of SBP and unstable medical
   condition. Rising leukocytosis and LFTs on broadened abx with neg cx to
   date.
   - Continue lactulose and rifaximin
   - Trend LFTs, INR, albumin
   - Sarna and urosiol for pruritis
   - Continue vanc/zosyn/cipro
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - Cont CVVH; will watch hemodynamics closely
   - Goal negative fluid balance if able to wean pressors
   - Cont midodrine, selevamer; d/c octreotide
   - F/u renal recs
   #) Thrombocytopenia/Anemia - [**12-21**] congestive sequestration, underlying
   liver disease. Has been stable.
   - Monitor counts daily
   - Transfuse for Hct <21, Plts<20
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-29**] 04:47 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: With pt and sisters. HCP1 is [**First Name4 (NamePattern1) 777**] [**Last Name (NamePattern1) 6397**]
   (nurse) [**Telephone/Fax (3) 6965**], HCP2 is [**First Name8 (NamePattern2) 1760**] [**Last Name (NamePattern1) 6399**] (h)
   [**Telephone/Fax (1) 6400**], (c) [**Telephone/Fax (1) 6401**].
   Code status: Full code
   Disposition: ICU

2145-04-30 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family called and will now agree to diagnostic para if we want to do
   it. Will be here at 4pm tomorrow for family meeting. Emailed liver team
   to let them know this as well.
   - Re-positioned A-line with better pressure readings so were able to
   decrease pressor requirement
   - Pressures started to drop overnight. Levo and vasopressin turned up.
   CVVH run even with no change bps. Am hct lower and ptt higher. Gave 2
   units. Held sc heparin. Left thigh swollen. Ordered lenis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-29**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-30**] 04:35 AM
   Infusions:
   Norepinephrine - 0.25 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 2.1 grams/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-4-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-30**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.3
   HR: 107 (92 - 115) bpm
   BP: 85/41(55) {69/41(51) - 116/81(91)} mmHg
   RR: 20 (9 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
             Total In:
                                                                 10,288 mL
                                                                  2,367 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    284 mL
   IVF:
                                                                  8,636 mL
                                                                  2,083 mL
   Blood products:
   Total out:
                                                                 11,160 mL
                                                                  2,230 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -872 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.36/44/81.[**Numeric Identifier 252**]/21/0
   Physical Examination
   GEN: sleepy. Arousable. Jaundice
   HEENT: Icteric sclera dry mm
   Lungs: CTAB
   HEART: Tachycardic
   ABD: Distended. TTP. No peritoneal signs.
   EXTREM: Left thigh/calf swollen>right. Left calf with blistering and
   hyperpigmentation with heel oozing sero-sanguinous fluid. Edema 3+
   bilaterally to sacrum.
   NEURO: Encephalopathic. Oriented only to person.
   Labs / Radiology
   55 K/uL
   8.6 g/dL
   192 mg/dL
   3.3 mg/dL
   21 mEq/L
   4.4 mEq/L
   41 mg/dL
   97 mEq/L
   134 mEq/L
   24.8 %
   15.3 K/uL
        [image002.jpg]
                             [**2145-4-29**]  03:48 AM
                             [**2145-4-29**]  04:02 AM
                             [**2145-4-29**]  10:09 AM
                             [**2145-4-29**]  10:38 AM
                             [**2145-4-29**]  04:05 PM
                             [**2145-4-29**]  04:22 PM
                             [**2145-4-29**]  10:04 PM
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
   WBC
   14.5
   15.3
   Hct
   26.2
   24.8
   Plt
   55
   Cr
   4.0
   3.0
   3.3
   TCO2
   25
   28
   26
   23
   26
   Glucose
   [**Telephone/Fax (3) 7021**]06
   192
   Other labs: PT / PTT / INR:38.5/144.6/4.0, ALT / AST:83/115, Alk Phos /
   T Bili:167/47.9, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension
 Worse today with CVVH running only even overnight and
   pressor requirement increasing. On broad antibiotic coverage due to
   concern for sepsis with increasing leukocytosis.
   - Transfuse one unit today for slight drop in hct and pressure
   - Cont CVVH with midodrine, levophed, vasopressin. Consider adding neo
   if BPs not up with blood
   - Cont vanc/zosyn (D4) and cipro (D3 tx dose)
   #) Leukocytosis: Increasing. Patient likely unable to mount temperature
   with CVVH. No clear source of infection but SBP would be likeliest
   source. Family refused 2 days ago but now agreeable and if cultures
   grew fungus would add anti-fungal so could do diagnostic para today if
   continues to have hypotension.
   - Panculture if spikes although may not mount temp given CVVH
   - Trend WBC count and fever curve;
   - F/U C. diff as not covering currently
   - Continue vanc/zosyn/cipro for now and consider anti-fungal if ctes to
   have hypotension.
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given question of SBP and unstable medical
   condition. Rising leukocytosis, worsening encephalopathy, and LFTs with
   worsening coagulation tests suggest worsening hepatic function.
   - family meeting with liver team and transplant today at 4pm
   - Continue lactulose and rifaximin
   - Trend LFTs, INR, albumin
   - Sarna and urosidiol for pruritis
   - Continue vanc/zosyn/cipro ->may consider anti-fungals if pressor
   requirement increases, fevers, decompensation
   #) Left Leg Swelling: Concerning for DVT given immobility.
   - Lenis ordered for this morning
   - Had to hold hep sc given elevated ptt this am. Will put pneumoboot on
   one arm for DVT ppx for now.
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - Cont CVVH; will watch hemodynamics closely
   - Cont midodrine, selevamer; d/c octreotide
   - F/u renal recs
   #) Thrombocytopenia/Anemia - [**12-21**] congestive sequestration, underlying
   liver disease. Hct slightly lower today and BPs lower so getting 2
   units.
   - Check hct post-transfusion
   - Transfuse for Hct <25, Plts<20
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-30**] 02:52 AM 45 mL/hour
   Glycemic Control:  ISS
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: holding hep sc given ptt. Pneumoboot on one arm
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: with family
   Code status: Full code
   Disposition: ICU

2145-04-30 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family called and will now agree to diagnostic para if we want to do
   it. Will be here at 4pm tomorrow for family meeting. Emailed liver team
   to let them know this as well.
   - Re-positioned A-line with better pressure readings so were able to
   decrease pressor requirement
   - Pressures started to drop overnight. Levo and vasopressin turned up.
   CVVH run even with no change bps. Am hct lower and ptt higher. Gave 2
   units. Held sc heparin. Left thigh swollen. Ordered lenis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-29**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-30**] 04:35 AM
   Infusions:
   Norepinephrine - 0.25 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 2.1 grams/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-4-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-30**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.3
   HR: 107 (92 - 115) bpm
   BP: 85/41(55) {69/41(51) - 116/81(91)} mmHg
   RR: 20 (9 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
             Total In:
                                                                 10,288 mL
                                                                  2,367 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    284 mL
   IVF:
                                                                  8,636 mL
                                                                  2,083 mL
   Blood products:
   Total out:
                                                                 11,160 mL
                                                                  2,230 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -872 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.36/44/81.[**Numeric Identifier 252**]/21/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   55 K/uL
   8.6 g/dL
   192 mg/dL
   3.3 mg/dL
   21 mEq/L
   4.4 mEq/L
   41 mg/dL
   97 mEq/L
   134 mEq/L
   24.8 %
   15.3 K/uL
        [image002.jpg]
                             [**2145-4-29**]  03:48 AM
                             [**2145-4-29**]  04:02 AM
                             [**2145-4-29**]  10:09 AM
                             [**2145-4-29**]  10:38 AM
                             [**2145-4-29**]  04:05 PM
                             [**2145-4-29**]  04:22 PM
                             [**2145-4-29**]  10:04 PM
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
   WBC
   14.5
   15.3
   Hct
   26.2
   24.8
   Plt
   55
   Cr
   4.0
   3.0
   3.3
   TCO2
   25
   28
   26
   23
   26
   Glucose
   [**Telephone/Fax (3) 7021**]06
   192
   Other labs: PT / PTT / INR:38.5/144.6/4.0, ALT / AST:83/115, Alk Phos /
   T Bili:167/47.9, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 EDUCATIONAL ACTIVITIES, INABILITY TO PARTICIPATE IN
 GAIT, IMPAIRED
 JOINT MOBILITY, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 SENSORY INTEGRITY, IMPAIRED
 TRANSFERS, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-30**] 02:52 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-30 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family called and will now agree to diagnostic para if we want to do
   it. Will be here at 4pm tomorrow for family meeting. Emailed liver team
   to let them know this as well.
   - Re-positioned A-line with better pressure readings so were able to
   decrease pressor requirement
   - Pressures started to drop overnight. Levo and vasopressin turned up.
   CVVH run even with no change bps. Am hct lower and ptt higher. Gave 2
   units. Held sc heparin. Left thigh swollen. Ordered lenis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-29**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-30**] 04:35 AM
   Infusions:
   Norepinephrine - 0.25 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 2.1 grams/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-4-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-30**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.3
   HR: 107 (92 - 115) bpm
   BP: 85/41(55) {69/41(51) - 116/81(91)} mmHg
   RR: 20 (9 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
             Total In:
                                                                 10,288 mL
                                                                  2,367 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    284 mL
   IVF:
                                                                  8,636 mL
                                                                  2,083 mL
   Blood products:
   Total out:
                                                                 11,160 mL
                                                                  2,230 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -872 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.36/44/81.[**Numeric Identifier 252**]/21/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   55 K/uL
   8.6 g/dL
   192 mg/dL
   3.3 mg/dL
   21 mEq/L
   4.4 mEq/L
   41 mg/dL
   97 mEq/L
   134 mEq/L
   24.8 %
   15.3 K/uL
        [image002.jpg]
                             [**2145-4-29**]  03:48 AM
                             [**2145-4-29**]  04:02 AM
                             [**2145-4-29**]  10:09 AM
                             [**2145-4-29**]  10:38 AM
                             [**2145-4-29**]  04:05 PM
                             [**2145-4-29**]  04:22 PM
                             [**2145-4-29**]  10:04 PM
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
   WBC
   14.5
   15.3
   Hct
   26.2
   24.8
   Plt
   55
   Cr
   4.0
   3.0
   3.3
   TCO2
   25
   28
   26
   23
   26
   Glucose
   [**Telephone/Fax (3) 7021**]06
   192
   Other labs: PT / PTT / INR:38.5/144.6/4.0, ALT / AST:83/115, Alk Phos /
   T Bili:167/47.9, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension
 Able to run net even yesterday on CVVH but still
   requiring double pressor support. On broad antibiotic coverage due to
   concern for sepsis with increasing leukocytosis.
   - Cont CVVH with midodrine, levophed, vasopressin with goal to wean
   pressors; would like to run negative if able
   - Cont vanc/zosyn (D3) and cipro (D2 tx dose)
   #) Leukocytosis: Increasing. Patient likely unable to mount temperature
   with CVVH. No clear source of infection but SBP would be likeliest
   source. Family refused 2 days ago but reconsider if clinical status
   worsening on empiric abx treatment.
   - Panculture if spikes
   - Trend WBC count and fever curve; add diff to AM labs
   - Check C. diff as not covering currently
   - Rediscuss with GI and family need for diagnostic paracentesis
   - Continue vanc/zosyn/cipro for now
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given question of SBP and unstable medical
   condition. Rising leukocytosis and LFTs on broadened abx with neg cx to
   date likely from SBP.
   - D/W family transplant options with liver team today because may never
   be well enough to have transplant
   - Continue lactulose and rifaximin
   - Trend LFTs, INR, albumin
   - Sarna and urosidiol for pruritis
   - Continue vanc/zosyn/cipro ->may consider anti-fungals if pressor
   requirement increases, fevers, decompensation
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - Cont CVVH; will watch hemodynamics closely
   - Goal negative fluid balance if able to wean pressors
   - Cont midodrine, selevamer; d/c octreotide
   - F/u renal recs
   #) Thrombocytopenia/Anemia - [**12-21**] congestive sequestration, underlying
   liver disease. Has been stable.
   - Monitor counts daily
   - Transfuse for Hct <21, Plts<20
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-30**] 02:52 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-04-30 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family called and will now agree to diagnostic para if we want to do
   it. Will be here at 4pm tomorrow for family meeting. Emailed liver team
   to let them know this as well.
   - Re-positioned A-line with better pressure readings so were able to
   decrease pressor requirement
   - Pressures started to drop overnight. Levo and vasopressin turned up.
   CVVH run even with no change bps. Am hct lower and ptt higher. Gave 2
   units. Held sc heparin. Left thigh swollen. Ordered LENIs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-29**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-4-30**] 04:35 AM
   Infusions:
   Norepinephrine - 0.25 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 2.1 grams/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-4-30**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-4-30**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.3
   HR: 107 (92 - 115) bpm
   BP: 85/41(55) {69/41(51) - 116/81(91)} mmHg
   RR: 20 (9 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 73 Inch
             Total In:
                                                                 10,288 mL
                                                                  2,367 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    284 mL
   IVF:
                                                                  8,636 mL
                                                                  2,083 mL
   Blood products:
   Total out:
                                                                 11,160 mL
                                                                  2,230 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -872 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.36/44/81.[**Numeric Identifier 252**]/21/0
   Physical Examination
   GEN: Sleepy but arousable. Jaundiced.
   HEENT: Icteric sclera dry mm
   Lungs: CTAB
   HEART: Tachycardic
   ABD: Distended. TTP. No peritoneal signs.
   EXTREM: Left thigh/calf swollen>right. Left calf with blistering and
   hyperpigmentation with heel oozing sero-sanguinous fluid. Edema 3+
   bilaterally to sacrum.
   NEURO: Encephalopathic. Oriented only to person.
   Labs / Radiology
   55 K/uL
   8.6 g/dL
   192 mg/dL
   3.3 mg/dL
   21 mEq/L
   4.4 mEq/L
   41 mg/dL
   97 mEq/L
   134 mEq/L
   24.8 %
   15.3 K/uL
        [image002.jpg]
                             [**2145-4-29**]  03:48 AM
                             [**2145-4-29**]  04:02 AM
                             [**2145-4-29**]  10:09 AM
                             [**2145-4-29**]  10:38 AM
                             [**2145-4-29**]  04:05 PM
                             [**2145-4-29**]  04:22 PM
                             [**2145-4-29**]  10:04 PM
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
   WBC
   14.5
   15.3
   Hct
   26.2
   24.8
   Plt
   55
   Cr
   4.0
   3.0
   3.3
   TCO2
   25
   28
   26
   23
   26
   Glucose
   [**Telephone/Fax (3) 7021**]06
   192
   Other labs: PT / PTT / INR:38.5/144.6/4.0, ALT / AST:83/115, Alk Phos /
   T Bili:167/47.9, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension
 Worse today with CVVH running only even overnight and
   pressor requirement increasing. Hct drop and enlarging left thigh
   concerning for bleed with underlying coagulopathy/platelet dysfunction.
   On broad antibiotic coverage due to concern for sepsis with increasing
   leukocytosis.
   - Heparin SC discontinued
   - Transfuse one unit today for slight drop in hct and pressure; 2 units
   FFP for presumed bleed
   - Cont CVVH with midodrine, levophed, vasopressin. Consider adding neo
   if BPs not up with blood
   - Cont empiric vanc/zosyn (D4), cipro (D3 tx dose)
   - Will ask ID for rec re: antifungal coverage with least hepatotoxicity
   - Paracentesis may be less useful in setting of declining clinical
   status; pending goals of care discussion w/ family this PM
   #) Leukocytosis: Increasing. Patient likely unable to mount temperature
   with CVVH. No clear source of infection but SBP would be likeliest
   source. Family refused 2 days ago but now agreeable and if cultures
   grew fungus would add anti-fungal so could do diagnostic para today if
   continues to have hypotension.
   - Panculture if spikes although may not mount temp given CVVH
   - Trend WBC count and fever curve;
   - F/U C. diff as not covering currently
   - Continue vanc/zosyn/cipro for now; antifungal and paracentesis plan
   as above
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given question of SBP and unstable medical
   condition. Rising leukocytosis, worsening encephalopathy, and LFTs with
   worsening coagulation tests suggest worsening hepatic function.
   - Family meeting with liver team and transplant today at 4pm
   - Continue lactulose and rifaximin
   - Trend LFTs, INR, albumin
   - Sarna and urosidiol for pruritis
   - Continue vanc/zosyn/cipro; considering antifungals as above
   - Holding paracentesis for now as above
   #) Left Leg Swelling: Concerning for DVT v. bleeding into LLE.
   - LENIs ordered for this morning
   - Ordered for 1U pRBC, 2 units FFP
   - Holding hep sc given elevated PTT and question of bleed. Will put
   pneumoboot on one arm for DVT ppx for now.
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - Cont CVVH; will watch hemodynamics closely
   - Cont midodrine, selevamer
   - F/u renal recs
   #) Thrombocytopenia/Anemia: [**12-21**] congestive sequestration, underlying
   liver disease. Hct slightly lower today and BPs lower so getting 2
   units as well as FFP for suspected bleed into LLE.
   - Check Hct post-transfusion
   - Transfuse for Hct <25, Plts<20
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-4-30**] 02:52 AM 45 mL/hour
   Glycemic Control:  ISS
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: Holding hep sc given PTT and ?bleed. Pneumoboot on one arm.
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: With sisters.
   [**Name (NI) 156**] status: Full code for now pending family mtg at 4pm today with GI,
   liver transplant, and ICU teams
   Disposition: ICU

2145-05-01 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Micafungin added.
   - Bcx grew out GPC in pairs and chains; vanco changed to dapto.
   - Made DNR/DNI at family meeting.
   - CVVH held per family request. 3.2 L net positive yesterday and 4.8 L
   net positive over length of stay. Still required increase of two
   pressors overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Daptomycin - [**2145-4-30**] 07:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.27 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2145-5-1**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: L leg pain. Denies SOB.
   Flowsheet Data as of  [**2145-5-1**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 117 (108 - 128) bpm
   BP: 90/50(61) {59/36(43) - 109/61(74)} mmHg
   RR: 17 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  8,229 mL
                                                                    708 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    305 mL
   IVF:
                                                                  5,670 mL
                                                                    373 mL
   Blood products:
                                                                  1,039 mL
   Total out:
                                                                  4,987 mL
                                                                    600 mL
   Urine:
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                  3,242 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.35/42/81.[**Numeric Identifier **]/20/-2
   Physical Examination
   GEN: Awake. Jaundiced.
   HEENT: Icteric sclera, dry mm
   Lungs: Mild rales R>L.
   HEART: Tachycardic
   ABD: Distended. TTP. No peritoneal signs.
   EXTREM: Left thigh/calf swollen>right. Left calf with blistering and
   hyperpigmentation with heel oozing yellow fluid. Edema 3+ bilaterally
   to sacrum.
   NEURO: Encephalopathic. Oriented to person and place.
   [**Numeric Identifier 358**] / Radiology
   65 K/uL
   9.6 g/dL
   175 mg/dL
   4.2 mg/dL
   20 mEq/L
   4.7 mEq/L
   57 mg/dL
   92 mEq/L
   130 mEq/L
   26.9 %
   19.1 K/uL
        [image002.jpg]
                             [**2145-4-29**]  10:09 AM
                             [**2145-4-29**]  10:38 AM
                             [**2145-4-29**]  04:05 PM
                             [**2145-4-29**]  04:22 PM
                             [**2145-4-29**]  10:04 PM
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
   WBC
   15.3
   19.1
   Hct
   24.8
   26.9
   Plt
   67
   65
   Cr
   3.0
   3.3
   4.2
   TCO2
   28
   26
   23
   26
   24
   Glucose
   199
   218
   206
   192
   175
   Other [**Year (4 digits) **]: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:83/115, Alk Phos /
   T Bili:167/47.9, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   [**4-29**] Bcx from a-line: GPC in pairs and chains. [**4-30**] C. diff negative.
   [**4-30**] Left LENI: The deep venous structures of the left lower extremity
   demonstrate normal Doppler flow, compressibility and augmentation.
   There is no evidence of DVT. The soft tissues are grossly within normal
   limits.
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension: Still on 2 pressors despite being off CVVH per family
   request. On broad antibiotic coverage with GPC in pairs and chains from
   1 of 2 sets bcx from [**4-29**]. Appropriate bump in Hct s/p 1 unit pRBC and
   2 units FFP yesterday due to concern for bleed into enlarged left thigh
   given underlying coagulopathy/platelet dysfunction.
   - Cont broad empiric coverage with Dapto (D2), zosyn (D5), cipro (D4 tx
   dose), micafungin (D2)
   - Cont midodrine, levophed, vasopressin. Consider adding neo if BPs not
   up with blood
   - Heparin SC discontinued
   - Renal states dialysis is not indicated.
   - Family meeting today to re-address goals of care now that dialysis is
   not indicated.
   #) Leukocytosis: Cont to increase. Patient likely unable to mount
   temperature with CVVH. SBP most likely source; treating empirically
   with broad abx including antifungal as family refused paracentesis
   several days ago.  1 of 2 sets [**4-29**] bcx with GPCs. C. diff neg.
   - f/u cultures.
   - Continue dapto/zosyn/cipro/mica
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given question of SBP and unstable medical
   condition. Rising leukocytosis, worsening encephalopathy, and LFTs with
   worsening coagulation tests suggest worsening hepatic function.
   - Family meeting with liver team and transplant today at 4pm
   - Continue lactulose and rifaximin
   - Sarna and urosidiol for pruritis
   - Holding paracentesis for now as above
   #) Left>Right Leg Swelling: No DVT. Concern for bleeding but Hct bumped
   appropriately to 1 unit yesterday.
   - Off heparin SQ
   #) Renal failure: [**12-21**] hepato-renal syndrome. CVVH held yesterday per
   family request. Cr increased but K stable.
   - Per renal recs, dialysis not indicated.
 will require family
   discussion today.
   - Cont midodrine, selevamer
   - F/u renal recs
   #) Thrombocytopenia/Anemia: [**12-21**] congestive sequestration, underlying
   liver disease. Hct responded appropriately to 1 unit yesterday. Plts
   stable.
   - Further transfusions not inticated without dialysis for volume
   removal.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-1**] 06:30 AM 45 mL/hour
   Glycemic Control:  ISS
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: Holding hep sc given elevated PTT and question of bleed.
   Pneumoboot on one arm
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: With sisters.
   [**Name (NI) 156**] status: DNR / DNI, as dialysis is not indicated, checking [**Name (NI) **] is
   medically futile.
   Disposition: ICU

2145-05-01 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Micafungin added.
   - Bcx grew out GPC in pairs and chains; vanco changed to dapto.
   - Made DNR/DNI at family meeting.
   - CVVH held per family request. 3.2 L net positive yesterday and 4.8 L
   net positive over length of stay. Still required increase of two
   pressors overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Daptomycin - [**2145-4-30**] 07:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.27 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2145-5-1**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: L leg pain. Denies SOB.
   Flowsheet Data as of  [**2145-5-1**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 117 (108 - 128) bpm
   BP: 90/50(61) {59/36(43) - 109/61(74)} mmHg
   RR: 17 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  8,229 mL
                                                                    708 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    305 mL
   IVF:
                                                                  5,670 mL
                                                                    373 mL
   Blood products:
                                                                  1,039 mL
   Total out:
                                                                  4,987 mL
                                                                    600 mL
   Urine:
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                  3,242 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.35/42/81.[**Numeric Identifier **]/20/-2
   Physical Examination
   GEN: Awake. Jaundiced.
   HEENT: Icteric sclera, dry mm
   Lungs: Mild rales R>L.
   HEART: Tachycardic
   ABD: Distended. TTP. No peritoneal signs.
   EXTREM: Left thigh/calf swollen>right. Left calf with blistering and
   hyperpigmentation with heel oozing yellow fluid. Edema 3+ bilaterally
   to sacrum.
   NEURO: Encephalopathic. Oriented to person and place.
   Labs / Radiology
   65 K/uL
   9.6 g/dL
   175 mg/dL
   4.2 mg/dL
   20 mEq/L
   4.7 mEq/L
   57 mg/dL
   92 mEq/L
   130 mEq/L
   26.9 %
   19.1 K/uL
        [image002.jpg]
                             [**2145-4-29**]  10:09 AM
                             [**2145-4-29**]  10:38 AM
                             [**2145-4-29**]  04:05 PM
                             [**2145-4-29**]  04:22 PM
                             [**2145-4-29**]  10:04 PM
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
   WBC
   15.3
   19.1
   Hct
   24.8
   26.9
   Plt
   67
   65
   Cr
   3.0
   3.3
   4.2
   TCO2
   28
   26
   23
   26
   24
   Glucose
   199
   218
   206
   192
   175
   Other labs: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:83/115, Alk Phos /
   T Bili:167/47.9, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   [**4-29**] Bcx from a-line: GPC in pairs and chains. [**4-30**] C. diff negative.
   [**4-30**] Left LENI: The deep venous structures of the left lower extremity
   demonstrate normal Doppler flow, compressibility and augmentation.
   There is no evidence of DVT. The soft tissues are grossly within normal
   limits.
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension: Still on 2 pressors despite being off CVVH per family
   request. On broad antibiotic coverage with GPC in pairs and chains from
   1 of 2 sets bcx from [**4-29**]. Appropriate bump in Hct s/p 1 unit pRBC and
   2 units FFP yesterday due to concern for bleed into enlarged left thigh
   given underlying coagulopathy/platelet dysfunction.
   - Cont broad empiric coverage with Dapto (D2), zosyn (D5), cipro (D4 tx
   dose), micafungin (D2)
   - Cont midodrine, levophed, vasopressin. Consider adding neo if BPs not
   up with blood
   - Heparin SC discontinued
   #) Leukocytosis: Cont to increase. Patient likely unable to mount
   temperature with CVVH. SBP most likely source; treating empirically
   with broad abx including antifungal as family refused paracentesis
   several days ago.  1 of 2 sets [**4-29**] bcx with GPCs. C. diff neg.
   - Panculture if spikes although may not mount temp given CVVH
   - Trend WBC count and fever curve
   - Continue vanc/zosyn/cipro/mica
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given question of SBP and unstable medical
   condition. Rising leukocytosis, worsening encephalopathy, and LFTs with
   worsening coagulation tests suggest worsening hepatic function.
   - Family meeting with liver team and transplant today at 4pm
   - Continue lactulose and rifaximin
   - Trend LFTs, INR, albumin
   - Sarna and urosidiol for pruritis
   - Continue vanc/zosyn/cipro; considering antifungals as above
   - Holding paracentesis for now as above
   #) Left>Right Leg Swelling: No DVT. Concern for bleeding but Hct bumped
   appropriately to 1 unit yesterday.
   - Pneumoboot on one arm and off heparin SC for DVT ppx given concern
   for bleed
   #) Renal failure: [**12-21**] hepato-renal syndrome. CVVH held yesterday per
   family request. Cr increased but K stable.
   - Per renal recs, dialysis not indicated.
   - Cont midodrine, selevamer
   - F/u renal recs
   #) Thrombocytopenia/Anemia: [**12-21**] congestive sequestration, underlying
   liver disease. Hct responded appropriately to 1 unit yesterday. Plts
   stable.
   - Transfuse for Hct <25, Plts<20
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-1**] 06:30 AM 45 mL/hour
   Glycemic Control:  ISS
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: Holding hep sc given elevated PTT and question of bleed.
   Pneumoboot on one arm
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: With sisters.
   [**Name (NI) 156**] status: DNR / DNI
   Disposition: ICU

2145-05-01 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Micafungin added.
   - Bcx grew out GPC in pairs and chains; vanco changed to dapto.
   - Made DNR/DNI at family meeting.
   - CVVH held per family request. 3.2 L net positive yesterday and 4.8 L
   net positive over length of stay. Still required increase of two
   pressors overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Daptomycin - [**2145-4-30**] 07:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.27 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2145-5-1**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: L leg pain. Denies SOB.
   Flowsheet Data as of  [**2145-5-1**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 117 (108 - 128) bpm
   BP: 90/50(61) {59/36(43) - 109/61(74)} mmHg
   RR: 17 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  8,229 mL
                                                                    708 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    305 mL
   IVF:
                                                                  5,670 mL
                                                                    373 mL
   Blood products:
                                                                  1,039 mL
   Total out:
                                                                  4,987 mL
                                                                    600 mL
   Urine:
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                  3,242 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.35/42/81.[**Numeric Identifier **]/20/-2
   Physical Examination
   GEN: Awake. Jaundiced.
   HEENT: Icteric sclera, dry mm
   Lungs: Mild rales R>L.
   HEART: Tachycardic
   ABD: Distended. TTP. No peritoneal signs.
   EXTREM: Left thigh/calf swollen>right. Left calf with blistering and
   hyperpigmentation with heel oozing yellow fluid. Edema 3+ bilaterally
   to sacrum.
   NEURO: Encephalopathic. Oriented to person and place.
   Labs / Radiology
   65 K/uL
   9.6 g/dL
   175 mg/dL
   4.2 mg/dL
   20 mEq/L
   4.7 mEq/L
   57 mg/dL
   92 mEq/L
   130 mEq/L
   26.9 %
   19.1 K/uL
        [image002.jpg]
                             [**2145-4-29**]  10:09 AM
                             [**2145-4-29**]  10:38 AM
                             [**2145-4-29**]  04:05 PM
                             [**2145-4-29**]  04:22 PM
                             [**2145-4-29**]  10:04 PM
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
   WBC
   15.3
   19.1
   Hct
   24.8
   26.9
   Plt
   67
   65
   Cr
   3.0
   3.3
   4.2
   TCO2
   28
   26
   23
   26
   24
   Glucose
   199
   218
   206
   192
   175
   Other labs: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:83/115, Alk Phos /
   T Bili:167/47.9, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   [**4-29**] Bcx from a-line: GPC in pairs and chains. [**4-30**] C. diff negative.
   [**4-30**] Left LENI: The deep venous structures of the left lower extremity
   demonstrate normal Doppler flow, compressibility and augmentation.
   There is no evidence of DVT. The soft tissues are grossly within normal
   limits.
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension: Still on 2 pressors despite being off CVVH per family
   request. On broad antibiotic coverage with GPC in pairs and chains from
   1 of 2 sets bcx from [**4-29**]. Appropriate bump in Hct s/p 1 unit pRBC and
   2 units FFP yesterday due to concern for bleed into enlarged left thigh
   given underlying coagulopathy/platelet dysfunction.
   - Cont broad empiric coverage with vanc/zosyn (D5), cipro (D4 tx dose),
   micafungin (D2)
   - Cont midodrine, levophed, vasopressin. Consider adding neo if BPs not
   up with blood
   - Heparin SC discontinued
   #) Leukocytosis: Cont to increase. Patient likely unable to mount
   temperature with CVVH. SBP most likely source; treating empirically
   with broad abx including antifungal as family refused paracentesis
   several days ago.  1 of 2 sets [**4-29**] bcx with GPCs. C. diff neg.
   - Panculture if spikes although may not mount temp given CVVH
   - Trend WBC count and fever curve
   - Continue vanc/zosyn/cipro/mica
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given question of SBP and unstable medical
   condition. Rising leukocytosis, worsening encephalopathy, and LFTs with
   worsening coagulation tests suggest worsening hepatic function.
   - Family meeting with liver team and transplant today at 4pm
   - Continue lactulose and rifaximin
   - Trend LFTs, INR, albumin
   - Sarna and urosidiol for pruritis
   - Continue vanc/zosyn/cipro; considering antifungals as above
   - Holding paracentesis for now as above
   #) Left>Right Leg Swelling: No DVT. Concern for bleeding but Hct bumped
   appropriately to 1 unit yesterday.
   - Pneumoboot on one arm and off heparin SC for DVT ppx given concern
   for bleed
   #) Renal failure: [**12-21**] hepato-renal syndrome. CVVH held yesterday per
   family request. Cr increased but K stable.
   - Cont CVVH; will watch hemodynamics closely
   - Cont midodrine, selevamer
   - F/u renal recs
   #) Thrombocytopenia/Anemia: [**12-21**] congestive sequestration, underlying
   liver disease. Hct responded appropriately to 1 unit yesterday. Plts
   stable.
   - Transfuse for Hct <25, Plts<20
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-1**] 06:30 AM 45 mL/hour
   Glycemic Control:  ISS
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: Holding hep sc given elevated PTT and question of bleed.
   Pneumoboot on one arm
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: With sisters.
   [**Name (NI) 156**] status: DNR / DNI
   Disposition: ICU

2145-05-01 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Micafungin added.
   - Bcx grew out GPC in pairs and chains; vanco changed to dapto.
   - Made DNR/DNI at family meeting.
   - CVVH held per family request. 3.2 L net positive yesterday and 4.8 L
   net positive over length of stay. Still required increase of two
   pressors overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Daptomycin - [**2145-4-30**] 07:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.27 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2145-5-1**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-1**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 117 (108 - 128) bpm
   BP: 90/50(61) {59/36(43) - 109/61(74)} mmHg
   RR: 17 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  8,229 mL
                                                                    708 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    305 mL
   IVF:
                                                                  5,670 mL
                                                                    373 mL
   Blood products:
                                                                  1,039 mL
   Total out:
                                                                  4,987 mL
                                                                    600 mL
   Urine:
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                  3,242 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.35/42/81.[**Numeric Identifier **]/20/-2
   Physical Examination
   GEN: Sleepy but arousable. Jaundiced.
   HEENT: Icteric sclera dry mm
   Lungs: CTAB
   HEART: Tachycardic
   ABD: Distended. TTP. No peritoneal signs.
   EXTREM: Left thigh/calf swollen>right. Left calf with blistering and
   hyperpigmentation with heel oozing sero-sanguinous fluid. Edema 3+
   bilaterally to sacrum.
   NEURO: Encephalopathic. Oriented only to person.
   Labs / Radiology
   65 K/uL
   9.6 g/dL
   175 mg/dL
   4.2 mg/dL
   20 mEq/L
   4.7 mEq/L
   57 mg/dL
   92 mEq/L
   130 mEq/L
   26.9 %
   19.1 K/uL
        [image002.jpg]
                             [**2145-4-29**]  10:09 AM
                             [**2145-4-29**]  10:38 AM
                             [**2145-4-29**]  04:05 PM
                             [**2145-4-29**]  04:22 PM
                             [**2145-4-29**]  10:04 PM
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
   WBC
   15.3
   19.1
   Hct
   24.8
   26.9
   Plt
   67
   65
   Cr
   3.0
   3.3
   4.2
   TCO2
   28
   26
   23
   26
   24
   Glucose
   199
   218
   206
   192
   175
   Other labs: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:83/115, Alk Phos /
   T Bili:167/47.9, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   [**4-29**] Bcx from a-line: GPC in pairs and chains. [**4-30**] C. diff negative.
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension
 Worse today with CVVH running only even overnight and
   pressor requirement increasing. Hct drop and enlarging left thigh
   concerning for bleed with underlying coagulopathy/platelet dysfunction.
   On broad antibiotic coverage due to concern for sepsis with increasing
   leukocytosis.
   - Heparin SC discontinued
   - Transfuse one unit today for slight drop in hct and pressure; 2 units
   FFP for presumed bleed
   - Cont CVVH with midodrine, levophed, vasopressin. Consider adding neo
   if BPs not up with blood
   - Cont empiric vanc/zosyn (D4), cipro (D3 tx dose)
   - Will ask ID for rec re: antifungal coverage with least hepatotoxicity
   - Paracentesis may be less useful in setting of declining clinical
   status; pending goals of care discussion w/ family this PM
   #) Leukocytosis: Increasing. Patient likely unable to mount temperature
   with CVVH. No clear source of infection but SBP would be likeliest
   source. Family refused 2 days ago but now agreeable and if cultures
   grew fungus would add anti-fungal so could do diagnostic para today if
   continues to have hypotension.
   - Panculture if spikes although may not mount temp given CVVH
   - Trend WBC count and fever curve;
   - F/U C. diff as not covering currently
   - Continue vanc/zosyn/cipro for now; antifungal and paracentesis plan
   as above
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given question of SBP and unstable medical
   condition. Rising leukocytosis, worsening encephalopathy, and LFTs with
   worsening coagulation tests suggest worsening hepatic function.
   - Family meeting with liver team and transplant today at 4pm
   - Continue lactulose and rifaximin
   - Trend LFTs, INR, albumin
   - Sarna and urosidiol for pruritis
   - Continue vanc/zosyn/cipro; considering antifungals as above
   - Holding paracentesis for now as above
   #) Left Leg Swelling: Concerning for DVT v. bleeding into LLE.
   - LENIs ordered for this morning
   - Ordered for 1U pRBC, 2 units FFP
   - Holding hep sc given elevated PTT and question of bleed. Will put
   pneumoboot on one arm for DVT ppx for now.
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - Cont CVVH; will watch hemodynamics closely
   - Cont midodrine, selevamer
   - F/u renal recs
   #) Thrombocytopenia/Anemia: [**12-21**] congestive sequestration, underlying
   liver disease. Hct slightly lower today and BPs lower so getting 2
   units as well as FFP for suspected bleed into LLE.
   - Check Hct post-transfusion
   - Transfuse for Hct <25, Plts<20
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-1**] 06:30 AM 45 mL/hour
   Glycemic Control:  ISS
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: Holding hep sc given elevated PTT and question of bleed.
   Pneumoboot on one arm
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: With sisters.
   [**Name (NI) 156**] status: DNR / DNI
   Disposition:

2145-05-01 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Micafungin added.
   - Bcx grew out GPC in pairs and chains; vanco changed to dapto.
   - Made DNR/DNI at family meeting.
   - CVVH held per family request but still required increase of two
   pressors overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Daptomycin - [**2145-4-30**] 07:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.27 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2145-5-1**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-1**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 117 (108 - 128) bpm
   BP: 90/50(61) {59/36(43) - 109/61(74)} mmHg
   RR: 17 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  8,229 mL
                                                                    708 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    305 mL
   IVF:
                                                                  5,670 mL
                                                                    373 mL
   Blood products:
                                                                  1,039 mL
   Total out:
                                                                  4,987 mL
                                                                    600 mL
   Urine:
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                  3,242 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.35/42/81.[**Numeric Identifier **]/20/-2
   Physical Examination
   GEN: Sleepy but arousable. Jaundiced.
   HEENT: Icteric sclera dry mm
   Lungs: CTAB
   HEART: Tachycardic
   ABD: Distended. TTP. No peritoneal signs.
   EXTREM: Left thigh/calf swollen>right. Left calf with blistering and
   hyperpigmentation with heel oozing sero-sanguinous fluid. Edema 3+
   bilaterally to sacrum.
   NEURO: Encephalopathic. Oriented only to person.
   Labs / Radiology
   65 K/uL
   9.6 g/dL
   175 mg/dL
   4.2 mg/dL
   20 mEq/L
   4.7 mEq/L
   57 mg/dL
   92 mEq/L
   130 mEq/L
   26.9 %
   19.1 K/uL
        [image002.jpg]
                             [**2145-4-29**]  10:09 AM
                             [**2145-4-29**]  10:38 AM
                             [**2145-4-29**]  04:05 PM
                             [**2145-4-29**]  04:22 PM
                             [**2145-4-29**]  10:04 PM
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
   WBC
   15.3
   19.1
   Hct
   24.8
   26.9
   Plt
   67
   65
   Cr
   3.0
   3.3
   4.2
   TCO2
   28
   26
   23
   26
   24
   Glucose
   199
   218
   206
   192
   175
   Other labs: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:83/115, Alk Phos /
   T Bili:167/47.9, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   [**4-29**] Bcx from a-line: GPC in pairs and chains. [**4-30**] C. diff negative.
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension
 Worse today with CVVH running only even overnight and
   pressor requirement increasing. Hct drop and enlarging left thigh
   concerning for bleed with underlying coagulopathy/platelet dysfunction.
   On broad antibiotic coverage due to concern for sepsis with increasing
   leukocytosis.
   - Heparin SC discontinued
   - Transfuse one unit today for slight drop in hct and pressure; 2 units
   FFP for presumed bleed
   - Cont CVVH with midodrine, levophed, vasopressin. Consider adding neo
   if BPs not up with blood
   - Cont empiric vanc/zosyn (D4), cipro (D3 tx dose)
   - Will ask ID for rec re: antifungal coverage with least hepatotoxicity
   - Paracentesis may be less useful in setting of declining clinical
   status; pending goals of care discussion w/ family this PM
   #) Leukocytosis: Increasing. Patient likely unable to mount temperature
   with CVVH. No clear source of infection but SBP would be likeliest
   source. Family refused 2 days ago but now agreeable and if cultures
   grew fungus would add anti-fungal so could do diagnostic para today if
   continues to have hypotension.
   - Panculture if spikes although may not mount temp given CVVH
   - Trend WBC count and fever curve;
   - F/U C. diff as not covering currently
   - Continue vanc/zosyn/cipro for now; antifungal and paracentesis plan
   as above
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given question of SBP and unstable medical
   condition. Rising leukocytosis, worsening encephalopathy, and LFTs with
   worsening coagulation tests suggest worsening hepatic function.
   - Family meeting with liver team and transplant today at 4pm
   - Continue lactulose and rifaximin
   - Trend LFTs, INR, albumin
   - Sarna and urosidiol for pruritis
   - Continue vanc/zosyn/cipro; considering antifungals as above
   - Holding paracentesis for now as above
   #) Left Leg Swelling: Concerning for DVT v. bleeding into LLE.
   - LENIs ordered for this morning
   - Ordered for 1U pRBC, 2 units FFP
   - Holding hep sc given elevated PTT and question of bleed. Will put
   pneumoboot on one arm for DVT ppx for now.
   #) Renal failure: [**12-21**] hepato-renal syndrome. Has been on CVVH in past,
   now unable to tolerate HD [**12-21**] hypotension
   - Cont CVVH; will watch hemodynamics closely
   - Cont midodrine, selevamer
   - F/u renal recs
   #) Thrombocytopenia/Anemia: [**12-21**] congestive sequestration, underlying
   liver disease. Hct slightly lower today and BPs lower so getting 2
   units as well as FFP for suspected bleed into LLE.
   - Check Hct post-transfusion
   - Transfuse for Hct <25, Plts<20
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-1**] 06:30 AM 45 mL/hour
   Glycemic Control:  ISS
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: Holding hep sc given elevated PTT and question of bleed.
   Pneumoboot on one arm
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: With sisters.
   [**Name (NI) 156**] status: DNR / DNI
   Disposition:

2145-05-01 11:16:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   remains pressor dependent on norepi and vasopressin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Daptomycin - [**2145-4-30**] 07:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 10:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.27 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2145-5-1**] 10:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-1**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.5
   HR: 115 (109 - 128) bpm
   BP: 90/55(65) {67/43(51) - 109/62(74)} mmHg
   RR: 22 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  8,229 mL
                                                                  1,174 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    498 mL
   IVF:
                                                                  5,670 mL
                                                                    616 mL
   Blood products:
                                                                  1,039 mL
   Total out:
                                                                  4,987 mL
                                                                    600 mL
   Urine:
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                  3,242 mL
                                                                    574 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Distended
   Extremities: anasarca
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Jaundice, left LE extensive skin breakdown with
   oozing, purulent areas
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, encephalopathic with intermittent ability to respond to
   questions
   [**Year (4 digits) 358**] / Radiology
   9.6 g/dL
   65 K/uL
   175 mg/dL
   4.2 mg/dL
   20 mEq/L
   4.7 mEq/L
   57 mg/dL
   92 mEq/L
   130 mEq/L
   26.9 %
   19.1 K/uL
        [image002.jpg]
                             [**2145-4-29**]  10:09 AM
                             [**2145-4-29**]  10:38 AM
                             [**2145-4-29**]  04:05 PM
                             [**2145-4-29**]  04:22 PM
                             [**2145-4-29**]  10:04 PM
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
   WBC
   15.3
   19.1
   Hct
   24.8
   26.9
   Plt
   67
   65
   Cr
   3.0
   3.3
   4.2
   TCO2
   28
   26
   23
   26
   24
   Glucose
   199
   218
   206
   192
   175
   Other [**Year (4 digits) **]: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:83/115, Alk Phos /
   T Bili:167/47.9, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 EDUCATIONAL ACTIVITIES, INABILITY TO PARTICIPATE IN
 GAIT, IMPAIRED
 JOINT MOBILITY, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 SENSORY INTEGRITY, IMPAIRED
 TRANSFERS, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 IMPAIRED SKIN INTEGRITY
   Remains pressor dependent
   vanc/cipro/micafungin
   No further CVVH
   will plan to stop checking [**Last Name (LF) **], [**First Name3 (LF) 124**] discuss with family
   TF continuing
   Need to discuss with family the specific approach to his care and
   transition to goals of care.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-1**] 06:30 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Discussed with hepatologist Dr [**Last Name (STitle) 4634**] and nephrologist Dr [**Last Name (STitle) 6071**] who
   agreed with transition to CMO and no further CVVH, not a transplant
   candidate.
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2145-05-01 11:16:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   remains pressor dependent on norepi and vasopressin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Daptomycin - [**2145-4-30**] 07:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 10:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.27 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2145-5-1**] 10:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: no pain, n/v, cough, dyspnea
   Flowsheet Data as of  [**2145-5-1**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.5
   HR: 115 (109 - 128) bpm
   BP: 90/55(65) {67/43(51) - 109/62(74)} mmHg
   RR: 22 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  8,229 mL
                                                                  1,174 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    498 mL
   IVF:
                                                                  5,670 mL
                                                                    616 mL
   Blood products:
                                                                  1,039 mL
   Total out:
                                                                  4,987 mL
                                                                    600 mL
   Urine:
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                  3,242 mL
                                                                    574 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   Generally, appears comfortable. Denies pain.
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Distended
   Extremities: anasarca
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Jaundice, left LE extensive skin breakdown with
   oozing, purulent areas
   Neurologic: encephalopathic with intermittent ability to respond to
   questions
   Labs / Radiology
   9.6 g/dL
   65 K/uL
   175 mg/dL
   4.2 mg/dL
   20 mEq/L
   4.7 mEq/L
   57 mg/dL
   92 mEq/L
   130 mEq/L
   26.9 %
   19.1 K/uL
        [image002.jpg]
                             [**2145-4-29**]  10:09 AM
                             [**2145-4-29**]  10:38 AM
                             [**2145-4-29**]  04:05 PM
                             [**2145-4-29**]  04:22 PM
                             [**2145-4-29**]  10:04 PM
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
   WBC
   15.3
   19.1
   Hct
   24.8
   26.9
   Plt
   67
   65
   Cr
   3.0
   3.3
   4.2
   TCO2
   28
   26
   23
   26
   24
   Glucose
   199
   218
   206
   192
   175
   Other labs: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:83/115, Alk Phos /
   T Bili:167/47.9, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:2.1 mmol/L, Albumin:3.3 g/dL,
   Ca++:10.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 EDUCATIONAL ACTIVITIES, INABILITY TO PARTICIPATE IN
 GAIT, IMPAIRED
 JOINT MOBILITY, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 SENSORY INTEGRITY, IMPAIRED
 TRANSFERS, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 IMPAIRED SKIN INTEGRITY
   ESLD, ESRD, not a transplant candidate.
   Remains pressor dependent
   vanc/cipro/micafungin
   No further CVVH will be done.
   Will plan to stop checking labs and stop pressors after further
   discussion with family
   TF continuing for now.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-1**] 06:30 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Discussed with hepatologist Dr [**Last Name (STitle) 4634**] and nephrologist Dr [**Last Name (STitle) 6071**] who
   agreed with transition to CMO and no further CVVH, not a transplant
   candidate.
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2145-05-02 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2145-5-1**]
   - Renal: Dialysis is not indicated.
   - Liver: explained to sisters that he won't have dialysis.  They would
   like him to receive last rights and have his mother come in [**5-2**] before
   pressors are stopped.
   - No further labs as intervetions would be futile
   - Budding yeast growing from A-line despite micafungin.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Daptomycin - [**2145-4-30**] 07:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 09:44 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.19 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2145-5-2**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-2**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 108 (105 - 120) bpm
   BP: 82/48(58) {79/46(56) - 102/62(73)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  2,544 mL
                                                                    543 mL
   PO:
             TF:
                                                                  1,084 mL
                                                                    284 mL
   IVF:
                                                                  1,249 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  1,600 mL
   Drains:
   Balance:
                                                                    944 mL
                                                                    543 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   65 K/uL
   9.6 g/dL
   175 mg/dL
   4.2 mg/dL
   20 mEq/L
   4.7 mEq/L
   57 mg/dL
   92 mEq/L
   130 mEq/L
   26.9 %
   19.1 K/uL
        [image002.jpg]
                             [**2145-4-29**]  10:09 AM
                             [**2145-4-29**]  10:38 AM
                             [**2145-4-29**]  04:05 PM
                             [**2145-4-29**]  04:22 PM
                             [**2145-4-29**]  10:04 PM
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
   WBC
   15.3
   19.1
   Hct
   24.8
   26.9
   Plt
   67
   65
   Cr
   3.0
   3.3
   4.2
   TCO2
   28
   26
   23
   26
   24
   Glucose
   199
   218
   206
   192
   175
   Other labs: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:415/688, Alk Phos
   / T Bili:169/45.0, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:2.1 mmol/L, Albumin:3.0 g/dL,
   LDH:389 IU/L, Ca++:10.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-2**] 04:33 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2145-05-02 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2145-5-1**]
   - Renal: Dialysis is not indicated.
   - Liver: explained to sisters that he won't have dialysis.  They would
   like him to receive last rights and have his mother come in [**5-2**] before
   pressors are stopped.
   - No further labs as intervetions would be futile
   - Budding yeast growing from A-line despite micafungin.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Daptomycin - [**2145-4-30**] 07:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 09:44 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.19 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2145-5-2**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-2**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 108 (105 - 120) bpm
   BP: 82/48(58) {79/46(56) - 102/62(73)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  2,544 mL
                                                                    543 mL
   PO:
             TF:
                                                                  1,084 mL
                                                                    284 mL
   IVF:
                                                                  1,249 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  1,600 mL
   Drains:
   Balance:
                                                                    944 mL
                                                                    543 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   GEN: Awake. Jaundiced.
   HEENT: Icteric sclera, dry mm
   Lungs: Mild rales R>L.
   HEART: Tachycardic
   ABD: Distended. TTP. No peritoneal signs.
   EXTREM: Left thigh/calf swollen>right. Left calf with blistering and
   hyperpigmentation with heel oozing yellow fluid. Edema 3+ bilaterally
   to sacrum.
   NEURO: Encephalopathic. Oriented to person and place
   Labs / Radiology
   65 K/uL
   9.6 g/dL
   175 mg/dL
   4.2 mg/dL
   20 mEq/L
   4.7 mEq/L
   57 mg/dL
   92 mEq/L
   130 mEq/L
   26.9 %
   19.1 K/uL
        [image002.jpg] From [**2145-5-1**]
                             [**2145-4-29**]  10:09 AM
                             [**2145-4-29**]  10:38 AM
                             [**2145-4-29**]  04:05 PM
                             [**2145-4-29**]  04:22 PM
                             [**2145-4-29**]  10:04 PM
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
   WBC
   15.3
   19.1
   Hct
   24.8
   26.9
   Plt
   67
   65
   Cr
   3.0
   3.3
   4.2
   TCO2
   28
   26
   23
   26
   24
   Glucose
   199
   218
   206
   192
   175
   Other labs: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:415/688, Alk Phos
   / T Bili:169/45.0, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:2.1 mmol/L, Albumin:3.0 g/dL,
   LDH:389 IU/L, Ca++:10.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-2**] 04:33 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2145-05-02 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2145-5-1**]
   - Renal: Dialysis is not indicated.
   - Liver: explained to sisters that he won't have dialysis.  They would
   like him to receive last rights and have his mother come in [**5-2**] before
   pressors are stopped.
   - No further labs as intervetions would be futile
   - Budding yeast growing from A-line despite micafungin.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Daptomycin - [**2145-4-30**] 07:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 09:44 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.19 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2145-5-2**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-2**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 108 (105 - 120) bpm
   BP: 82/48(58) {79/46(56) - 102/62(73)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  2,544 mL
                                                                    543 mL
   PO:
             TF:
                                                                  1,084 mL
                                                                    284 mL
   IVF:
                                                                  1,249 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  1,600 mL
   Drains:
   Balance:
                                                                    944 mL
                                                                    543 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   GEN: Awake. Jaundiced.
   HEENT: Icteric sclera, dry mm
   Lungs: Mild rales R>L.
   HEART: Tachycardic
   ABD: Distended. TTP. No peritoneal signs.
   EXTREM: Left thigh/calf swollen>right. Left calf with blistering and
   hyperpigmentation with heel oozing yellow fluid. Edema 3+ bilaterally
   to sacrum.
   NEURO: Encephalopathic. Oriented to person and place
   Labs / Radiology
   65 K/uL
   9.6 g/dL
   175 mg/dL
   4.2 mg/dL
   20 mEq/L
   4.7 mEq/L
   57 mg/dL
   92 mEq/L
   130 mEq/L
   26.9 %
   19.1 K/uL
        [image002.jpg] From [**2145-5-1**]
                             [**2145-4-29**]  10:09 AM
                             [**2145-4-29**]  10:38 AM
                             [**2145-4-29**]  04:05 PM
                             [**2145-4-29**]  04:22 PM
                             [**2145-4-29**]  10:04 PM
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
   WBC
   15.3
   19.1
   Hct
   24.8
   26.9
   Plt
   67
   65
   Cr
   3.0
   3.3
   4.2
   TCO2
   28
   26
   23
   26
   24
   Glucose
   199
   218
   206
   192
   175
   Other labs: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:415/688, Alk Phos
   / T Bili:169/45.0, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:2.1 mmol/L, Albumin:3.0 g/dL,
   LDH:389 IU/L, Ca++:10.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension: Still on 2 pressors despite being off CVVH per family
   request. On broad antibiotic coverage with GPC in pairs and chains from
   1 of 2 sets bcx from [**4-29**]. Appropriate bump in Hct s/p 1 unit pRBC and
   2 units FFP yesterday due to concern for bleed into enlarged left thigh
   given underlying coagulopathy/platelet dysfunction.
   - Cont broad empiric coverage with Dapto (D2), zosyn (D5), cipro (D4 tx
   dose), micafungin (D2)
   - Cont midodrine, levophed, vasopressin. Consider adding neo if BPs not
   up with blood
   - Heparin SC discontinued
   - Renal states dialysis is not indicated.
   - Family meeting today to re-address goals of care now that dialysis is
   not indicated.
   #) Leukocytosis: Cont to increase. Patient likely unable to mount
   temperature with CVVH. SBP most likely source; treating empirically
   with broad abx including antifungal as family refused paracentesis
   several days ago.  1 of 2 sets [**4-29**] bcx with GPCs. C. diff neg.
   - f/u cultures.
   - Continue dapto/zosyn/cipro/mica
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given question of SBP and unstable medical
   condition. Rising leukocytosis, worsening encephalopathy, and LFTs with
   worsening coagulation tests suggest worsening hepatic function.
   - Family meeting with liver team and transplant today at 4pm
   - Continue lactulose and rifaximin
   - Sarna and urosidiol for pruritis
   - Holding paracentesis for now as above
   #) Left>Right Leg Swelling: No DVT. Concern for bleeding but Hct bumped
   appropriately to 1 unit yesterday.
   - Off heparin SQ
   #) Renal failure: [**12-21**] hepato-renal syndrome. CVVH held yesterday per
   family request. Cr increased but K stable.
   - Per renal recs, dialysis not indicated.
 will require family
   discussion today.
   - Cont midodrine, selevamer
   - F/u renal recs
   #) Thrombocytopenia/Anemia: [**12-21**] congestive sequestration, underlying
   liver disease. Hct responded appropriately to 1 unit yesterday. Plts
   stable.
   - Further transfusions not inticated without dialysis for volume
   removal.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-2**] 04:33 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2145-05-02 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2145-5-1**]
   - Renal: Dialysis is not indicated.
   - Liver: explained to sisters that he won't have dialysis.  They would
   like him to receive last rights and have his mother come in [**5-2**] before
   pressors are stopped.
   - No further labs as intervetions would be futile
   - Budding yeast growing from A-line despite micafungin.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Daptomycin - [**2145-4-30**] 07:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 09:44 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.19 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2145-5-2**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-2**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 108 (105 - 120) bpm
   BP: 82/48(58) {79/46(56) - 102/62(73)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  2,544 mL
                                                                    543 mL
   PO:
             TF:
                                                                  1,084 mL
                                                                    284 mL
   IVF:
                                                                  1,249 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  1,600 mL
   Drains:
   Balance:
                                                                    944 mL
                                                                    543 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   GEN: Awake. Jaundiced.
   HEENT: Icteric sclera, dry mm
   Lungs: Mild rales R>L.
   HEART: Tachycardic
   ABD: Distended. TTP. No peritoneal signs.
   EXTREM: Left thigh/calf swollen>right. Left calf with blistering and
   hyperpigmentation with heel oozing yellow fluid. Edema 3+ bilaterally
   to sacrum.
   NEURO: Encephalopathic. Oriented to person and place
   Labs / Radiology
   65 K/uL
   9.6 g/dL
   175 mg/dL
   4.2 mg/dL
   20 mEq/L
   4.7 mEq/L
   57 mg/dL
   92 mEq/L
   130 mEq/L
   26.9 %
   19.1 K/uL
        [image002.jpg] From [**2145-5-1**]
                             [**2145-4-29**]  10:09 AM
                             [**2145-4-29**]  10:38 AM
                             [**2145-4-29**]  04:05 PM
                             [**2145-4-29**]  04:22 PM
                             [**2145-4-29**]  10:04 PM
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
   WBC
   15.3
   19.1
   Hct
   24.8
   26.9
   Plt
   67
   65
   Cr
   3.0
   3.3
   4.2
   TCO2
   28
   26
   23
   26
   24
   Glucose
   199
   218
   206
   192
   175
   Other labs: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:415/688, Alk Phos
   / T Bili:169/45.0, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:2.1 mmol/L, Albumin:3.0 g/dL,
   LDH:389 IU/L, Ca++:10.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   No new studies or labs
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension: Still on 2 pressors despite being off CVVH per family
   request. Now fungemic with budding yeast in blood cx.
   - Cont broad empiric coverage with Dapto (D3), zosyn (D6), cipro (D5 tx
   dose), micafungin (D3)
   - Renal stated dialysis is not indicated as his underlying hepatic
   disease cannot be treated with transplant.
   - His family was made aware that dialysis is not indicated and he will
   receive last rights, his mother will come visit him and he will be made
   CMO.
   #) Leukocytosis: Cont to increase. Patient likely unable to mount
   temperature with CVVH. Blood Cx growing budding yeast
   - f/u cultures.
   - Continue dapto/zosyn/cipro/mica
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given clinical status
   - Family meeting with liver team has indicated he will get last rights
   today and will be made CMO after.
   - Continue lactulose and rifaximin
   - Sarna and urosidiol for pruritis
   #) Left>Right Leg Swelling: No DVT. Concern for bleeding but Hct bumped
   appropriately to 1 unit yesterday.
   - Off heparin SQ
   #) Renal failure: [**12-21**] hepato-renal syndrome. Per renal, dialysis not
   indicated
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-2**] 04:33 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI, likely transition to CMO later today with
   withdrawal of care
   Disposition:ICU

2145-05-02 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2145-5-1**]
   - Renal: Dialysis is not indicated.
   - Liver: explained to sisters that he won't have dialysis.  They would
   like him to receive last rights and have his mother come in [**5-2**] before
   pressors are stopped.
   - No further labs as intervetions would be futile
   - Budding yeast growing from A-line despite micafungin.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Daptomycin - [**2145-4-30**] 07:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 09:44 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.19 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2145-5-2**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-2**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 108 (105 - 120) bpm
   BP: 82/48(58) {79/46(56) - 102/62(73)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  2,544 mL
                                                                    543 mL
   PO:
             TF:
                                                                  1,084 mL
                                                                    284 mL
   IVF:
                                                                  1,249 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  1,600 mL
   Drains:
   Balance:
                                                                    944 mL
                                                                    543 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   GEN: Awake. Jaundiced.
   HEENT: Icteric sclera, dry mm
   Lungs: Mild rales R>L.
   HEART: Tachycardic
   ABD: Distended. TTP. No peritoneal signs.
   EXTREM: Left thigh/calf swollen>right. Left calf with blistering and
   hyperpigmentation with heel oozing yellow fluid. Edema 3+ bilaterally
   to sacrum.
   NEURO: Encephalopathic. Oriented to person and place
   Labs / Radiology
   65 K/uL
   9.6 g/dL
   175 mg/dL
   4.2 mg/dL
   20 mEq/L
   4.7 mEq/L
   57 mg/dL
   92 mEq/L
   130 mEq/L
   26.9 %
   19.1 K/uL
        [image002.jpg] From [**2145-5-1**]
                             [**2145-4-29**]  10:09 AM
                             [**2145-4-29**]  10:38 AM
                             [**2145-4-29**]  04:05 PM
                             [**2145-4-29**]  04:22 PM
                             [**2145-4-29**]  10:04 PM
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
   WBC
   15.3
   19.1
   Hct
   24.8
   26.9
   Plt
   67
   65
   Cr
   3.0
   3.3
   4.2
   TCO2
   28
   26
   23
   26
   24
   Glucose
   199
   218
   206
   192
   175
   Other labs: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:415/688, Alk Phos
   / T Bili:169/45.0, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:2.1 mmol/L, Albumin:3.0 g/dL,
   LDH:389 IU/L, Ca++:10.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   No new studies or labs
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension: Still on 2 pressors despite being off CVVH per family
   request. Now fungemic with budding yeast in blood cx.
   - Cont broad empiric coverage with Dapto (D3), zosyn (D6), cipro (D5 tx
   dose), micafungin (D3)
   - Renal stated dialysis is not indicated as his underlying hepatic
   disease cannot be treated with transplant.
   - His family was made aware that dialysis is not indicated and he will
   receive last rights, his mother will come visit him and he will be made
   CMO.
   #) Leukocytosis: Cont to increase. Patient likely unable to mount
   temperature with CVVH. Blood Cx growing budding yeast
   - f/u cultures.
   - Continue dapto /mica
   - Consider d/c zosyn/cipro as only treating empirically.
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given clinical status
   - Family meeting with liver team has indicated he will get last rights
   today and will be made CMO after.
   - D/c lactulose as CMO
   - Sarna and urosidiol for pruritis
   #) Left>Right Leg Swelling: No DVT. Initially concerned for bleeding
   but hcts stable.
   - Off heparin SQ
   #) Renal failure: [**12-21**] hepato-renal syndrome. Per renal, dialysis not
   indicated. D/C phos binders as no longer checking labs.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-2**] 04:33 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Communication: Family meeting held
   Code status: DNR / DNI, likely transition to CMO later today with
   withdrawal of care
   Disposition:ICU

2145-05-03 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family insisted on CVVH so patient was put back on it
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 09:44 PM
   Daptomycin - [**2145-5-2**] 08:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-5-2**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-3**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 110 (90 - 112) bpm
   BP: 71/45(53) {71/45(53) - 94/56(66)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  2,590 mL
                                                                  1,470 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    280 mL
   IVF:
                                                                  1,348 mL
                                                                  1,190 mL
   Blood products:
   Total out:
                                                                    624 mL
                                                                    581 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,966 mL
                                                                    889 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.42/30/107/12/-3
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   65 K/uL
   9.0 g/dL
   112 mg/dL
   6.0 mg/dL
   12 mEq/L
   2.8 mEq/L
   95 mg/dL
   114 mEq/L
   139 mEq/L
   26.0 %
   20.6 K/uL
        [image002.jpg]
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
                             [**2145-5-2**]  03:26 PM
                             [**2145-5-2**]  03:37 PM
                             [**2145-5-3**]  12:25 AM
                             [**2145-5-3**]  05:35 AM
                             [**2145-5-3**]  05:36 AM
   WBC
   15.3
   19.1
   20.6
   Hct
   24.8
   26.9
   26.0
   Plt
   67
   65
   Cr
   3.3
   4.2
   6.0
   TCO2
   23
   26
   24
   24
   21
   20
   Glucose
   192
   175
   172
   112
   Other labs: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:415/688, Alk Phos
   / T Bili:169/45.0, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:3.1 mmol/L, Albumin:3.0 g/dL,
   LDH:389 IU/L, Ca++:9.6 mg/dL, Mg++:2.6 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 EDUCATIONAL ACTIVITIES, INABILITY TO PARTICIPATE IN
 GAIT, IMPAIRED
 JOINT MOBILITY, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 SENSORY INTEGRITY, IMPAIRED
 TRANSFERS, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-3**] 02:36 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2145-05-03 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family insisted on CVVH so patient was put back on it
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 09:44 PM
   Daptomycin - [**2145-5-2**] 08:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-5-2**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-3**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 110 (90 - 112) bpm
   BP: 71/45(53) {71/45(53) - 94/56(66)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  2,590 mL
                                                                  1,470 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    280 mL
   IVF:
                                                                  1,348 mL
                                                                  1,190 mL
   Blood products:
   Total out:
                                                                    624 mL
                                                                    581 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,966 mL
                                                                    889 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.42/30/107/12/-3
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   65 K/uL
   9.0 g/dL
   112 mg/dL
   6.0 mg/dL
   12 mEq/L
   2.8 mEq/L
   95 mg/dL
   114 mEq/L
   139 mEq/L
   26.0 %
   20.6 K/uL
        [image002.jpg]
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
                             [**2145-5-2**]  03:26 PM
                             [**2145-5-2**]  03:37 PM
                             [**2145-5-3**]  12:25 AM
                             [**2145-5-3**]  05:35 AM
                             [**2145-5-3**]  05:36 AM
   WBC
   15.3
   19.1
   20.6
   Hct
   24.8
   26.9
   26.0
   Plt
   67
   65
   Cr
   3.3
   4.2
   6.0
   TCO2
   23
   26
   24
   24
   21
   20
   Glucose
   192
   175
   172
   112
   Other labs: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:415/688, Alk Phos
   / T Bili:169/45.0, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:3.1 mmol/L, Albumin:3.0 g/dL,
   LDH:389 IU/L, Ca++:9.6 mg/dL, Mg++:2.6 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension: Still on 2 pressors despite being off CVVH per family
   request. Now fungemic with budding yeast in blood cx.
   - Cont broad empiric coverage with Dapto (D3), zosyn (D6), cipro (D5 tx
   dose), micafungin (D3)
   - Renal stated dialysis is not indicated as his underlying hepatic
   disease cannot be treated with transplant.
   - His family was made aware that dialysis is not indicated and he will
   receive last rights, his mother will come visit him and he will be made
   CMO.
   #) Leukocytosis: Cont to increase. Patient likely unable to mount
   temperature with CVVH. Blood Cx growing budding yeast
   - f/u cultures.
   - Continue dapto /mica
   - Consider d/c zosyn/cipro as only treating empirically.
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given clinical status
   - Family meeting with liver team has indicated he will get last rights
   today and will be made CMO after.
   - D/c lactulose as CMO
   - Sarna and urosidiol for pruritis
   #) Left>Right Leg Swelling: No DVT. Initially concerned for bleeding
   but hcts stable.
   - Off heparin SQ
   #) Renal failure: [**12-21**] hepato-renal syndrome. Per renal, dialysis not
   indicated. D/C phos binders as no longer checking labs.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-3**] 02:36 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2145-05-03 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family insisted on CVVH so patient was put back on it
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 09:44 PM
   Daptomycin - [**2145-5-2**] 08:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-5-2**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-3**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 110 (90 - 112) bpm
   BP: 71/45(53) {71/45(53) - 94/56(66)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  2,590 mL
                                                                  1,470 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    280 mL
   IVF:
                                                                  1,348 mL
                                                                  1,190 mL
   Blood products:
   Total out:
                                                                    624 mL
                                                                    581 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,966 mL
                                                                    889 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.42/30/107/12/-3
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   65 K/uL
   9.0 g/dL
   112 mg/dL
   6.0 mg/dL
   12 mEq/L
   2.8 mEq/L
   95 mg/dL
   114 mEq/L
   139 mEq/L
   26.0 %
   20.6 K/uL
        [image002.jpg]
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
                             [**2145-5-2**]  03:26 PM
                             [**2145-5-2**]  03:37 PM
                             [**2145-5-3**]  12:25 AM
                             [**2145-5-3**]  05:35 AM
                             [**2145-5-3**]  05:36 AM
   WBC
   15.3
   19.1
   20.6
   Hct
   24.8
   26.9
   26.0
   Plt
   67
   65
   Cr
   3.3
   4.2
   6.0
   TCO2
   23
   26
   24
   24
   21
   20
   Glucose
   192
   175
   172
   112
   Other labs: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:415/688, Alk Phos
   / T Bili:169/45.0, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:3.1 mmol/L, Albumin:3.0 g/dL,
   LDH:389 IU/L, Ca++:9.6 mg/dL, Mg++:2.6 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension: Still on 2 pressors and back on CVVH per family
   request. Blood cx growing VRE. Now fungemic with budding yeast in blood
   cx.  He received 1 dose of micafungin [**2145-4-30**] (presumed not cleared in
   setting of hepatic failure).
   - Cont VRE coverage with Dapto (D4)
   - Renal restarted CVVH at family
s insistence.
   - F/u ethics recs, will likely need another family meeting today.
   #) Renal failure: [**12-21**] hepato-renal syndrome.
   - Renal states dialysis is not indicated as his liver failure needs
   transplant and he would not survive right now.  At family
s request, he
   was put back on CVVH as they hope he will
clear up
 a bit.
   #) Leukocytosis: Cont to increase. Patient likely unable to mount
   temperature with CVVH. Blood Cx growing VRE and budding yeast
   - f/u cultures.
   - Continue dapto
 received a dose of micafungin [**2145-4-30**]
   - zosyn/cipro were d/c
ed as only treating empirically.
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given clinical status
   - Sarna and urosidiol for pruritis
   #) Left>Right Leg Swelling: No DVT. Initially concerned for bleeding
   but hcts stable.
   - Off heparin SQ
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-3**] 02:36 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU

2145-05-03 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family insisted on CVVH so patient was put back on it
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 09:44 PM
   Daptomycin - [**2145-5-2**] 08:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-5-2**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-3**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 110 (90 - 112) bpm
   BP: 71/45(53) {71/45(53) - 94/56(66)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  2,590 mL
                                                                  1,470 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    280 mL
   IVF:
                                                                  1,348 mL
                                                                  1,190 mL
   Blood products:
   Total out:
                                                                    624 mL
                                                                    581 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,966 mL
                                                                    889 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.42/30/107/12/-3
   Physical Examination
   GEN: Arousable. Jaundiced.
   HEENT: Icteric sclera
   Lungs: Mild rales R>L.
   HEART: Tachycardic
   ABD: Distended. TTP. No peritoneal signs.
   EXTREM: Left thigh/calf swollen>right. Left calf with blistering and
   hyperpigmentation with skin oozing yellow fluid. Edema 3+ bilaterally
   to sacrum.
   NEURO: Encephalopathic. Oriented to person
   Labs / Radiology
   65 K/uL
   9.0 g/dL
   112 mg/dL
   6.0 mg/dL
   12 mEq/L
   2.8 mEq/L
   95 mg/dL
   114 mEq/L
   139 mEq/L
   26.0 %
   20.6 K/uL
        [image002.jpg]
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
                             [**2145-5-2**]  03:26 PM
                             [**2145-5-2**]  03:37 PM
                             [**2145-5-3**]  12:25 AM
                             [**2145-5-3**]  05:35 AM
                             [**2145-5-3**]  05:36 AM
   WBC
   15.3
   19.1
   20.6
   Hct
   24.8
   26.9
   26.0
   Plt
   67
   65
   Cr
   3.3
   4.2
   6.0
   TCO2
   23
   26
   24
   24
   21
   20
   Glucose
   192
   175
   172
   112
   Other labs: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:415/688, Alk Phos
   / T Bili:169/45.0, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:3.1 mmol/L, Albumin:3.0 g/dL,
   LDH:389 IU/L, Ca++:9.6 mg/dL, Mg++:2.6 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension: Still on 2 pressors and back on CVVH per family
   request. Blood cx growing VRE. Now fungemic with budding yeast in blood
   cx.  He received 1 dose of micafungin [**2145-4-30**] (presumed not cleared in
   setting of hepatic failure).
   - Cont VRE coverage with Dapto (D4)
   - Renal restarted CVVH at family
s insistence.
   - F/u ethics recs, will likely need another family meeting today.
   #) Renal failure: [**12-21**] hepato-renal syndrome.
   - Renal states dialysis is not indicated as his liver failure needs
   transplant and he would not survive right now.  At family
s request, he
   was put back on CVVH as they hope he will
clear up
 a bit.
   #) Leukocytosis: Cont to increase. Patient likely unable to mount
   temperature with CVVH. Blood Cx growing VRE and budding yeast
   - f/u cultures.
   - Continue dapto
 received a dose of micafungin [**2145-4-30**]
   - zosyn/cipro were d/c
ed as only treating empirically.
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Currently not able
   to be transplanted given clinical status
   - Sarna and urosidiol for pruritis
   #) Left>Right Leg Swelling: No DVT. Initially concerned for bleeding
   but hcts stable.
   - Off heparin SQ
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-3**] 02:36 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU

2145-05-03 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family insisted on CVVH so patient was put back on it
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-4-30**] 08:00 AM
   Micafungin - [**2145-4-30**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 09:44 PM
   Daptomycin - [**2145-5-2**] 08:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-5-2**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-3**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 110 (90 - 112) bpm
   BP: 71/45(53) {71/45(53) - 94/56(66)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  2,590 mL
                                                                  1,470 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    280 mL
   IVF:
                                                                  1,348 mL
                                                                  1,190 mL
   Blood products:
   Total out:
                                                                    624 mL
                                                                    581 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,966 mL
                                                                    889 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.42/30/107/12/-3
   Physical Examination
   GEN: Arousable. Jaundiced.
   HEENT: Icteric sclera
   Lungs: Mild rales R>L.
   HEART: Tachycardic
   ABD: Distended. TTP. No peritoneal signs.
   EXTREM: Left thigh/calf swollen>right. Left calf with blistering and
   hyperpigmentation with skin oozing yellow fluid. Edema 3+ bilaterally
   to sacrum.
   NEURO: Encephalopathic. Oriented to person
   Labs / Radiology
   64 K/uL
   9.0 g/dL
   189 mg/dL
   4.0 mg/dL
   18 mEq/L
   5.3 mEq/L
   78 mg/dL
   94          mEq/L
   129 mEq/L
   26.0 %
   20.6 K/uL
        [image002.jpg]
                             [**2145-4-29**]  10:21 PM
                             [**2145-4-30**]  04:11 AM
                             [**2145-4-30**]  04:32 AM
                             [**2145-4-30**]  10:09 AM
                             [**2145-5-1**]  04:10 AM
                             [**2145-5-2**]  03:26 PM
                             [**2145-5-2**]  03:37 PM
                             [**2145-5-3**]  12:25 AM
                             [**2145-5-3**]  05:35 AM
                             [**2145-5-3**]  05:36 AM
   WBC
   15.3
   19.1
   20.6
   Hct
   24.8
   26.9
   26.0
   Plt
   67
   65
   Cr
   3.3
   4.2
   6.0
   TCO2
   23
   26
   24
   24
   21
   20
   Glucose
   192
   175
   172
   112
   Other labs: Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis presents from floor with
   ongoing hepato-renal syndrome requiring CVVH and pressor support.
   #) Hypotension: Still on 2 pressors and back on CVVH per family
   request. Bcx show VRE bactermia and fungemia.
   - Cont VRE coverage with Dapto (D4); micafungin dose [**2145-5-30**] presumed
   not cleared in setting of hepatic failure.
   - Renal restarted CVVH at family
s insistence.
   - F/u ethics recs. Father [**Name (NI) 3275**] to come. Will need another family
   meeting today.
   #) Renal failure: [**12-21**] hepato-renal syndrome.
   - Renal states dialysis is not indicated as his liver failure needs
   transplant and he would not survive right now.  At family
s request, he
   was put back on CVVH as they hope he will
clear up
 a bit.
   #) Leukocytosis: Cont to rise. Likely unable to mount fever with CVVH.
   Blood Cx growing VRE and budding yeast.
   - F/u cultures
   - Continue dapto; received a dose of micafungin [**2145-4-30**] as above
   - Zosyn/cipro were d/c
d as only treating empirically.
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Not transplant
   candidate given clinical status
   - Appreciate Liver team input
   - Sarna and urosidiol for pruritis
   - Resume lactulose and rifaximin
   #) Left>Right Leg Swelling: No DVT. Initially concerned for bleeding
   but hcts stable.
   - Off heparin SQ
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-3**] 02:36 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: With family; daily mtgs.
   Code status: DNR / DNI.
   Disposition: ICU.

2145-05-04 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family mtg: No escalation of care. Stop CVVH if BP does not tolerate.
   - CVVH stopped at 4:345 am as MAP unable to tolerate
   - Family notified to come see pt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 09:44 PM
   Daptomycin - [**2145-5-2**] 08:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2145-5-4**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-4**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.4
C (95.7
   HR: 97 (87 - 111) bpm
   BP: 56/39(45) {56/39(45) - 90/54(64)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  4,602 mL
                                                                  1,061 mL
   PO:
             TF:
                                                                  1,084 mL
                                                                    328 mL
   IVF:
                                                                  3,303 mL
                                                                    628 mL
   Blood products:
   Total out:
                                                                  2,421 mL
                                                                    310 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,181 mL
                                                                    751 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.23/34/80.[**Numeric Identifier 20**]/12/-12
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   45 K/uL
   8.9 g/dL
   98 mg/dL
   3.5 mg/dL
   12 mEq/L
   5.2 mEq/L
   54 mg/dL
   95 mEq/L
   129 mEq/L
   26.6 %
   21.8 K/uL
        [image002.jpg]
                             [**2145-5-3**]  12:25 AM
                             [**2145-5-3**]  05:35 AM
                             [**2145-5-3**]  05:36 AM
                             [**2145-5-3**]  11:45 AM
                             [**2145-5-3**]  12:05 PM
                             [**2145-5-3**]  05:55 PM
                             [**2145-5-3**]  09:22 PM
                             [**2145-5-3**]  09:38 PM
                             [**2145-5-4**]  03:28 AM
                             [**2145-5-4**]  03:56 AM
   WBC
   20.6
   21.8
   Hct
   26.0
   26.6
   Plt
   64
   45
   Cr
   4.0
   3.5
   TCO2
   21
   20
   21
   17
   15
   Glucose
   112
   189
   138
   123
   122
   98
   Other labs: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:370/598, Alk Phos
   / T Bili:205/40.9, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:3.1 mmol/L, Albumin:3.0 g/dL,
   LDH:389 IU/L, Ca++:9.4 mg/dL, Mg++:2.5 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 EDUCATIONAL ACTIVITIES, INABILITY TO PARTICIPATE IN
 GAIT, IMPAIRED
 JOINT MOBILITY, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 SENSORY INTEGRITY, IMPAIRED
 TRANSFERS, IMPAIRED
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
 HEPATORENAL SYNDROME
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-4**] 06:14 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2145-05-04 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family mtg: No escalation of care. Stop CVVH if BP does not tolerate.
   - CVVH stopped at 4:345 am as MAP unable to tolerate
   - Family notified to come see pt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-5-1**] 09:44 PM
   Daptomycin - [**2145-5-2**] 08:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2145-5-4**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-5-4**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.4
C (95.7
   HR: 97 (87 - 111) bpm
   BP: 56/39(45) {56/39(45) - 90/54(64)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  4,602 mL
                                                                  1,061 mL
   PO:
             TF:
                                                                  1,084 mL
                                                                    328 mL
   IVF:
                                                                  3,303 mL
                                                                    628 mL
   Blood products:
   Total out:
                                                                  2,421 mL
                                                                    310 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,181 mL
                                                                    751 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.23/34/80.[**Numeric Identifier 20**]/12/-12
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   45 K/uL
   8.9 g/dL
   98 mg/dL
   3.5 mg/dL
   12 mEq/L
   5.2 mEq/L
   54 mg/dL
   95 mEq/L
   129 mEq/L
   26.6 %
   21.8 K/uL
        [image002.jpg]
                             [**2145-5-3**]  12:25 AM
                             [**2145-5-3**]  05:35 AM
                             [**2145-5-3**]  05:36 AM
                             [**2145-5-3**]  11:45 AM
                             [**2145-5-3**]  12:05 PM
                             [**2145-5-3**]  05:55 PM
                             [**2145-5-3**]  09:22 PM
                             [**2145-5-3**]  09:38 PM
                             [**2145-5-4**]  03:28 AM
                             [**2145-5-4**]  03:56 AM
   WBC
   20.6
   21.8
   Hct
   26.0
   26.6
   Plt
   64
   45
   Cr
   4.0
   3.5
   TCO2
   21
   20
   21
   17
   15
   Glucose
   112
   189
   138
   123
   122
   98
   Other labs: PT / PTT / INR:36.0/102.4/3.7, ALT / AST:370/598, Alk Phos
   / T Bili:205/40.9, Differential-Neuts:79.3 %, Band:0.0 %, Lymph:10.4 %,
   Mono:8.6 %, Eos:1.5 %, Lactic Acid:3.1 mmol/L, Albumin:3.0 g/dL,
   LDH:389 IU/L, Ca++:9.4 mg/dL, Mg++:2.5 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   55M with decompensated hepatitis C cirrhosis complicated by
   hepato-renal syndrome requiring CVVH and pressor support with continued
   hypotension.
   #) Hypotension: Unable to continue CVVH in setting of maximum doses of
   pressors with MAPS still in the 40s.
   - Family aware and coming in.
   #) Renal failure: [**12-21**] hepato-renal syndrome.
   - CVVH d/c
d in setting of persistent hypotension despite max dose
   levophed and vasopressin.
   #) Hep C Cirrhosis:  Decompensated w/ encepholpathy & rising MELD/INR;
   likely precipitated by SBP c/b hepatorenal syndrome. Not transplant
   candidate given clinical status
   - Appreciate Liver team input
   - Sarna and urosidiol for pruritis
   - lactulose and rifaximin
   #) Pain/respiratory distress: Likely to increase given CVVH
   discontinued.
   - morphine PRN
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2145-5-4**] 06:14 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-4-25**] 06:12 PM
   PICC Line - [**2145-4-25**] 06:12 PM
   Arterial Line - [**2145-4-25**] 10:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI->CMO
   Disposition: ICU